2104-07-29 10:57:00 Physician Resident Progress Note
Chief Complaint: 69M with high grade sarcoma s/p recent resection
   presented from rehab with ileus, aspiration, respiratory failure.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-7-28**] 04:00 PM
 MULTI LUMEN - START [**2104-7-28**] 04:19 PM
 FEVER - 101.1
F - [**2104-7-28**] 04:00 PM
   Ortho team recs: WBAT, imaging on CT c/w post-op changes, not concerned
   with infection, recommend d/w Dr.[**Name (NI) 258**] team.
   NGT with copious amounts feculent material this morning.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-7-28**] 11:43 PM
   Vancomycin - [**2104-7-29**] 08:43 AM
   Metronidazole - [**2104-7-29**] 10:06 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Asking to have tube removed.  Denies pain. Passing flatus/stool, no abd
   pain.
   Flowsheet Data as of  [**2104-7-29**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 96 (89 - 102) bpm
   BP: 137/55(75) {92/41(54) - 144/76(90)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.7 kg (admission): 152.8 kg
             Total In:
                                                                  3,864 mL
                                                                    791 mL
   PO:
             TF:
   IVF:
                                                                    364 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                    453 mL
                                                                  3,195 mL
   Urine:
                                                                    423 mL
                                                                    595 mL
   NG:
                                                                     30 mL
                                                                  2,600 mL
   Stool:
   Drains:
   Balance:
                                                                  3,411 mL
                                                                 -2,404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   PS : 0 cmH2O
   RR (Set): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 11.9 L/min
   Physical Examination
   Vitals: T:101.4  BP:136/61  P: 99 R: 21 SaO2:  98% 60% Fi02, intubated
   General: Awake, intubated, calm.
   HEENT: NCAT, intubated with OGT in place, draining feculent material.
   sclera anicteric.
   Neck: thick
   Pulmonary: mechanical BS, rhonchorous
   Cardiac: distant
   Abdomen: Distended, tympanitic, not-tense. Hypoactive bs present. No
   rebound or guarding.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Skin: no rashes or lesions noted.  No splinter hemorrhages, osler nodes
   or [**Last Name (un) 255**] lesions noted.
   Neurologic: Awake, responding to questions with nods and gestures,
   responds appropriately to commands, very cooperative.  CN intact.
   sensation intact LE, b/l LE weakness R>L with 1/5 on right and [**1-15**] on
   left.
   Labs / Radiology
   290 K/uL
   9.7 g/dL
   152 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   45 mg/dL
   100 mEq/L
   135 mEq/L
   29.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
   WBC
   13.4
   12.0
   Hct
   33.4
   29.0
   Plt
   324
   290
   Cr
   1.5
   1.2
   TropT
   0.11
   0.10
   Glucose
   163
   152
   Other labs: PT / PTT / INR:22.0/37.7/2.1, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:3.1 %,
   Eos:0.0 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia, ? role of CHF, HAP as well.
   -Treat for both aspiration PNA and HAP with Vanc/Flagyl/Ceftaz to cover
   MRSA, gram negatives/pseudomonas and anaerobes.
   -add on BNP (although may be falsely elevated in sepsis)
   -TTE in today to eval EF, ? focal wall motion abnormality
   -CEs flat
   -Oxygenating well, decrease Fi02 to 40%, decrease PEEP to 8, if
   tolerates, can switch to PSV, check ABG and consider extubation.
   .
   <I>## ? paraspinal soft tissue infection:</I>Findings on CT with air
   and stranding concerning for infection with gas producing organism.
   -ortho/spine team aware, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 251**] not concerned for infection based
   on imaging.
   -touch base with Dr. [**Last Name (STitle) 252**]
s team
   -Spinal precautions/rotator bed
   -Vanc/ceftaz to cover for MRSA/pseudomonas/gram negs.
   -trend blood cultures
   .
   <I>## > Coagulopathy:</I>INR 19, on repeat 21. Received IV vitamin K,
   INR back to 2.1
   -Unclear why pt is on coumadin for DVT vs AF vs PPX.  Call rehab today
   to confirm.
   .
   <I>## ARF:</I>suspect in setting sepsis, already decreasing with IVF
   given in ED.
   renally dose meds, check 12 hour [**Last Name (un) 259**] trough today to determine if
   dosing sufficient.
   hydrate
   avoid nephrotoxic medications
   follow UOP, bolus for UOP <40cc/hour
   .
   <I>## UTI:</I>Had indwelling foley at rehab. Initial UA dirty with
   WBCs, LE and bacteria.
   -changed foley
   -add urine culture to ensure properly covered
   -Pt on vanc/flagyl/ceftaz, should cover urine pathogens.
   .
   <I>## AF:</I>Pt had transient AF in setting of intubation/levophed.
   Repeat ecg NSR.  No known prior h/o AF although pt on coumadin.
   -Monitor on tele
   -Cycle CEs for ROMI
   -TTE in am as above
   -repeat TTE today, looks like may still be in fib on tele.
   .
   <I>## Ileus:</I>rehab reports pt taking increasing amounts of
   narcotics, having trouble managing constipation and frequently c/o abd
   pain. CT abd c/w ileus, no free air, abd benign/non-tender on exam, is
   still stooling. Suspect narcotics related ileus.
   -OGT decompression , will need NGT at time of intubation
   -NPO for now
   -Started stooling, continue aggressive bowel regimen
   -hold on considering  PO naloxone
   .
   <I>## CAD:</I> No known prior h/o of CAD.  Pt coming in on labetalol, ?
   h/o HTN.
   -Complete ROMI as above, has elevated trop, ? in setting of demand
   -No ASA for elevated INR and potential for surgery in near future.
   Consider  start ASA now that coags controlled.
   -TTE in am
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2104-7-28**] 04:19 PM
   20 Gauge - [**2104-7-28**] 04:20 PM
   18 Gauge - [**2104-7-28**] 04:21 PM
   Prophylaxis:
   DVT: Boots(INR 21)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2104-07-30 07:52:00 Physician Resident Progress Note
Chief Complaint: 69M with high grade sarcoma s/p recent resection
   presented from rehab with ileus, aspiration, respiratory failure.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2104-7-29**] 11:19 AM
 EKG - At [**2104-7-29**] 11:19 AM
 PICC LINE - START [**2104-7-29**] 02:00 PM
 INVASIVE VENTILATION - STOP [**2104-7-29**] 03:00 PM
 PAN CULTURE - At [**2104-7-30**] 04:00 AM
   bld and urine cultures sent.
 MULTI LUMEN - STOP [**2104-7-30**] 05:00 AM
 FEVER - 101.4
F - [**2104-7-30**] 04:00 AM
   Dr.[**Name (NI) 258**] team agreed that CT findings most consistent with
   post-operative changes, no further recs.
   Continued high NGT output
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-7-30**] 12:00 AM
   Metronidazole - [**2104-7-30**] 02:00 AM
   Vancomycin - [**2104-7-30**] 05:04 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-7-29**] 04:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-7-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 83 (80 - 97) bpm
   BP: 122/47(65) {103/42(55) - 144/961(82)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,509 mL
                                                                    535 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,219 mL
                                                                    535 mL
   Blood products:
   Total out:
                                                                  6,565 mL
                                                                    380 mL
   Urine:
                                                                  1,265 mL
                                                                    380 mL
   NG:
                                                                  5,300 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,056 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 630 (630 - 650) mL
   Vt (Spontaneous): 630 (630 - 630) mL
   PS : 5 cmH2O
   RR (Set): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 16.6 L/min
   Physical Examination
   General: Awake, intubated, calm.
   HEENT: NCAT, intubated with OGT in place, draining feculent material.
   sclera anicteric.
   Neck: thick
   Pulmonary: mechanical BS, rhonchorous
   Cardiac: distant
   Abdomen: Distended, tympanitic, not-tense. Hypoactive bs present. No
   rebound or guarding.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Skin: no rashes or lesions noted.  No splinter hemorrhages, osler nodes
   or [**Last Name (un) 255**] lesions noted.
   Neurologic: Awake, responding to questions with nods and gestures,
   responds appropriately to commands, very cooperative.  CN intact.
   sensation intact LE, b/l LE weakness R>L with 1/5 on right and [**1-15**] on
   left.
   Labs / Radiology
   270 K/uL
   9.0 g/dL
   120 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   39 mg/dL
   98 mEq/L
   137 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
   WBC
   13.4
   12.0
   12.8
   Hct
   33.4
   29.0
   27.2
   Plt
   324
   290
   270
   Cr
   1.5
   1.2
   0.6
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   Other labs: PT / PTT / INR:14.9/37.7/1.3, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:3.1 %,
   Eos:0.0 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.4 mg/dL
   TTE:
   The left atrium is normal in size. Due to suboptimal technical quality,
   a focal wall motion abnormality cannot be fully excluded. There is a
   mild resting left ventricular outflow tract obstruction. Right
   ventricular chamber size and free wall motion are normal. The aortic
   root is mildly dilated at the sinus level. The aortic valve leaflets
   are mildly thickened. The aortic valve is not well seen. There is a
   minimally increased gradient consistent with minimal aortic valve
   stenosis. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. Trivial mitral regurgitation is seen. There is no
   pericardial effusion.
   No vegetation seen (cannot definitively exclude).
   Compared with the prior study (images reviewed) of [**2104-7-17**], there is
   no definite change.
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia, ? role of CHF, HAP as well.
   -Treat for both aspiration PNA and HAP with Vanc/Flagyl/Ceftaz to cover
   MRSA, gram negatives/pseudomonas and anaerobes.
   -add on BNP (although may be falsely elevated in sepsis)
   -TTE in today to eval EF, ? focal wall motion abnormality
   -CEs flat
   -Oxygenating well, decrease Fi02 to 40%, decrease PEEP to 8, if
   tolerates, can switch to PSV, check ABG and consider extubation.
   .
   <I>## ? paraspinal soft tissue infection:</I>Findings on CT with air
   and stranding concerning for infection with gas producing organism.
   -ortho/spine team aware, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 251**] not concerned for infection based
   on imaging.
   -touch base with Dr. [**Last Name (STitle) 252**]
s team
   -Spinal precautions/rotator bed
   -Vanc/ceftaz to cover for MRSA/pseudomonas/gram negs.
   -trend blood cultures
   .
   <I>## > Coagulopathy:</I>INR 19, on repeat 21. Received IV vitamin K,
   INR back to 2.1
   -Unclear why pt is on coumadin for DVT vs AF vs PPX.  Call rehab today
   to confirm.
   .
   <I>## ARF:</I>suspect in setting sepsis, already decreasing with IVF
   given in ED.
   renally dose meds, check 12 hour [**Last Name (un) 259**] trough today to determine if
   dosing sufficient.
   hydrate
   avoid nephrotoxic medications
   follow UOP, bolus for UOP <40cc/hour
   .
   <I>## UTI:</I>Had indwelling foley at rehab. Initial UA dirty with
   WBCs, LE and bacteria.
   -changed foley
   -add urine culture to ensure properly covered
   -Pt on vanc/flagyl/ceftaz, should cover urine pathogens.
   .
   <I>## AF:</I>Pt had transient AF in setting of intubation/levophed.
   Repeat ecg NSR.  No known prior h/o AF although pt on coumadin.
   -Monitor on tele
   -Cycle CEs for ROMI
   -TTE in am as above
   -repeat TTE today, looks like may still be in fib on tele.
   .
   <I>## Ileus:</I>rehab reports pt taking increasing amounts of
   narcotics, having trouble managing constipation and frequently c/o abd
   pain. CT abd c/w ileus, no free air, abd benign/non-tender on exam, is
   still stooling. Suspect narcotics related ileus.
   -OGT decompression , will need NGT at time of intubation
   -NPO for now
   -Started stooling, continue aggressive bowel regimen
   -hold on considering  PO naloxone
   .
   <I>## CAD:</I> No known prior h/o of CAD.  Pt coming in on labetalol, ?
   h/o HTN.
   -Complete ROMI as above, has elevated trop, ? in setting of demand
   -No ASA for elevated INR and potential for surgery in near future.
   Consider  start ASA now that coags controlled.
   -TTE in am
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2104-7-28**] 04:19 PM
   20 Gauge - [**2104-7-28**] 04:20 PM
   18 Gauge - [**2104-7-28**] 04:21 PM
   Prophylaxis:
   DVT: Boots(INR 21)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2104-07-30 11:36:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yr old with high grade sarcoma, bowel obstruction, resolving shock
   and resp failure
   24 Hour Events:
 TRANS Thoracic ECHO - At [**2104-7-29**] 11:19 AM
 EKG - At [**2104-7-29**] 11:19 AM
 PICC LINE - START [**2104-7-29**] 02:00 PM
 INVASIVE VENTILATION - STOP [**2104-7-29**] 03:00 PM
 PAN CULTURE - At [**2104-7-30**] 04:00 AM
   bld and urine cultures sent.
 MULTI LUMEN - STOP [**2104-7-30**] 05:00 AM - Femoral Line Out
 FEVER - 101.4
F - [**2104-7-30**] 04:00 AM
   Persistent high NGT ouput, still abd cramping
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-7-30**] 12:00 AM
   Vancomycin - [**2104-7-30**] 05:04 AM
   Metronidazole - [**2104-7-30**] 10:26 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-7-30**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-7-30**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.8
   HR: 81 (80 - 97) bpm
   BP: 123/53(69) {103/42(55) - 138/961(83)} mmHg
   RR: 18 (14 - 28) insp/[**Year (4 digits) **]
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,509 mL
                                                                    694 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,219 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  6,565 mL
                                                                    575 mL
   Urine:
                                                                  1,265 mL
                                                                    575 mL
   NG:
                                                                  5,300 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,056 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 630 (630 - 630) mL
   Vt (Spontaneous): 630 (630 - 630) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: ///31/
   Ve: 16.6 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: RR
   Neurologic:
   Labs / Radiology
   9.0 g/dL
   270 K/uL
   120 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   39 mg/dL
   98 mEq/L
   137 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
   WBC
   13.4
   12.0
   12.8
   Hct
   33.4
   29.0
   27.2
   Plt
   324
   290
   270
   Cr
   1.5
   1.2
   0.6
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   Other labs: PT / PTT / INR:14.9/37.7/1.3, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:3.1 %,
   Eos:0.0 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.4 mg/dL
   TTE mild LVOT, normal [**Last Name (LF) **], [**First Name3 (LF) **] AS, LVEF > 60%
   CXR: underpenetrated portable film, but even allowing for that seems
   worse than prior
   Assessment and Plan
   Mr. [**Known lastname **] is a 69 yo male pmh significant for high grade
   sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] and
   anxiety/depression who presents from [**Hospital 246**] rehab with SBO, asp PNA
   and respiratory failure
   1) Respiratory failure- s/p extubation with adequate oxygenation and
   ventilation. CXR looks worse and may be evolving asp pneumonitis.
   2) Sepsis-resolving source suspect asp PNA.  Initally we were concerned
   about post surgical site changes - discussed with ortho and [**Doctor First Name **]
   onc and they feel it is notc onsistent with infection
 post op
   changes. Fever today 101.4
 pan cx, fem line is out.
   Continues on Vanco (low level and adjust dose) and Zosyn/Flagyl
   pending cx data.
   3) ARF-Resolved with resuscitation
   4)Afib-TTE neg for clot, restart coumadin, lovenox 50 [**Hospital1 **] (call
   [**Hospital1 246**] to confirm DVT)
   5)Ileus: Aggressive bowel regimen.  Decompress abdomen. Continue NG
   tube for decompression. D'c meds from above. PO narcan, Enemas and
   reglan.
   6) Pain: remains on IV Fentanyl 50 mcg/hr, placed patch yesterday and
   will try to wean. Call Pain Consult.
   ICU Care
   Nutrition: nutrition consult for TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-7-28**] 04:20 PM
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  discussed case with pt and wife who were updates at
   bedise on rounds
   Code status: Full code
   Disposition : ICU until IV continuous narcotics

2104-07-31 07:46:00 Physician Resident Progress Note
Chief Complaint: 69M with high grade sarcoma s/p recent resection
   presented from rehab with ileus, aspiration, respiratory failure.
   24 Hour Events:
   Pain consulted:  Pt started on ketamine gtt as opioid sparing pain
   regimen, off fentanyl gtt, still on fentanyl patch. Goal to use as
   ileus resolves then switch to intrathecal pump (cannot be on AC or have
   infection) or consider nerve block.
   Pt very anxious overnight.
   Pt having BMs, still though with high NGT output, able to tolerate ~2
   hours off suction.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-7-30**] 10:54 PM
   Ceftazidime - [**2104-7-31**] 12:19 AM
   Metronidazole - [**2104-7-31**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-7-30**] 08:28 AM
   Hydromorphone (Dilaudid) - [**2104-7-30**] 02:00 PM
   Enoxaparin (Lovenox) - [**2104-7-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   C/o some
straining
 to breath, + SOB worse from yesterday. Wife notes
   pt looks more tachypneic.  C/o feeling sedated.  Back pain improved but
   still [**4-19**].  No nausea. Abd pain improved
   Flowsheet Data as of  [**2104-7-31**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 86 (81 - 97) bpm
   BP: 126/48(69) {89/37(55) - 157/91(99)} mmHg
   RR: 28 (14 - 31) insp/[**Year (4 digits) **]
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,236 mL
                                                                    463 mL
   PO:
             TF:
   IVF:
                                                                  1,236 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    570 mL
   Urine:
                                                                    945 mL
                                                                    370 mL
   NG:
                                                                    600 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% 2L
 inc to 5L
   ABG: ///29/
   Physical Examination
   General: Awake, sedated but answering all questions appropriately
   HEENT: NCAT, NGT in place.  New b./l facial flushing
   Neck: thick
   Pulmonary: Crackles anteriorly
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Skin: facial flushing
   Neurologic: Awake, sedated, answering questions appropriately but has
   poor short term memory.  2/5 strength RLE, [**2-13**] LLE.
   Labs / Radiology
   266 K/uL
   9.4 g/dL
   99 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   28 mg/dL
   95 mEq/L
   132 mEq/L
   27.5 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   Plt
   324
   290
   270
   260
   266
   Cr
   1.5
   1.2
   0.6
   0.5
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   Other labs: PT / PTT / INR:15.1/37.7/1.3, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:3.1 %,
   Eos:0.0 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Vanco: 12.1
[**2104-7-28**] 5:49 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2104-7-29**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
         YEAST.    MODERATE GROWTH.
   [**7-30**] TTE:
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). The right ventricular cavity is dilated with
   depressed free wall contractility. There is abnormal septal
   motion/position. The number of aortic valve leaflets cannot be
   determined. The aortic valve leaflets are mildly thickened. The mitral
   valve leaflets are not well seen. There is no pericardial effusion.
   IMPRESSION: No evidence of pericardial effusion or tamponade.
   Compared with the prior study (images reviewed) of [**2104-7-29**], the
   findings are similar.
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis and ileus.
   .
   <I>PLAN:</I>
   .
   <I>## Ileus:</I>Narcotic related, transitioned to ketamine with
   assistance from pain service in effort to decrease narcotics burden.
   Much improved today, tolerating NGT off suction with decreased output,
   increased stooling with BM, no nausea and less abd tenderness.
   -Leave NGT in place for now.
   -Slowly advance diet to clears and monitor
   -Continue bowel regimen
   -PO naloxone
   -Reglan TID
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia.
   -Treating with Vanc/Flagyl/Ceftaz to cover MRSA, gram
   negatives/pseudomonas and anaerobes for planned 8 [**Known lastname 25**] course
   -Today with increased 02 requirement, tachypnea and wheezes/crackles on
   exam.  CXR showed interval worsening of pulmpnary process, ddx includes
   CHF, multifocal PNA or ARDS.  Plan trial of lasix, check BNP, VBG.
   Should pt continue to decompensate from respiratory perspective and
   require intubation, consider ARDSNET protocol.
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes.
   .
   <I>## > Coagulopathy:</I>resolved with vitamin K.
   .
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy and ? of
   history of DVT will anticoagulate pt.  Will use lovenox for now as pt
   may need rapid reversal of ac in setting of any planned procedures.
   -treatment dose lovenox
   .
   <I>##Pain control:<I> Appreciate pain service
s input.  Have started pt
   on ketamine gtt overnight.  Pain is better controlled although pt does
   still endorse [**4-19**] back pain.  Pt also concerned about sedation from
   medication. Plan at present is to:
   -decrease ketamine infusion to 15/hour
   -add toradol prn for breakthrough pain
   -consider addition of tizanadine should the above fail to be adequate,
   although will also cause significant sedation.
   -Other option includes intrathecal pump although would need to be
   discussed by Dr. [**Last Name (STitle) **] as has spine stimulator in place. Also could
   not be on anticoagulation or have ongoing infection for pump to be
   place.
   ICU Care
   Nutrition:
   Advancing to clears for now
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC
   Prophylaxis:
   DVT: Boots, lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: pt and wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2104-07-31 12:12:00 Physician Attending Progress Note
Chief Complaint: resp failure due to aspiration
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   24 hour events: Started on a ketamine drip, fentanyl drip off placed on
   patch.  Lots of bowel movenents with high NG output.  Increased
   repsiratory rate and sensation of dyspnea.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-7-31**] 12:19 AM
   Vancomycin - [**2104-7-31**] 08:35 AM
   Metronidazole - [**2104-7-31**] 10:00 AM
   Infusions:
   Ketamine - 333.3 mcg/[**Year (4 digits) **]
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2104-7-30**] 02:00 PM
   Enoxaparin (Lovenox) - [**2104-7-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-7-31**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 92 (83 - 97) bpm
   BP: 143/57(78) {89/37(55) - 157/91(99)} mmHg
   RR: 24 (16 - 31) insp/[**Year (4 digits) **]
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,236 mL
                                                                    945 mL
   PO:
             TF:
   IVF:
                                                                  1,236 mL
                                                                    885 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    850 mL
   Urine:
                                                                    945 mL
                                                                    650 mL
   NG:
                                                                    600 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   exam today: Gen: .  HEENT: PERRL, EOMI.  Neck: Unable to visualize JVP,
   Lungs: decreased BS bases sig inspiratory sqeaks and wheezes CV: RRR
   s1s2 no m/r/g appreciated.  Abdomen: hyperactive BS, few high pitch
   sounds, Less Distended, tympanetic, no r/g. ext: 2+ LE edema
   bilaterally.   Skin: Warm and dry.
   Labs / Radiology
   9.4 g/dL
   266 K/uL
   99 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   28 mg/dL
   95 mEq/L
   132 mEq/L
   27.5 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   Plt
   324
   290
   270
   260
   266
   Cr
   1.5
   1.2
   0.6
   0.5
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   Other labs: PT / PTT / INR:15.1/37.7/1.3, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:3.1 %,
   Eos:0.0 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 69 yo male pmh significant for high grade
   sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] and
   anxiety/depression who presents from [**Hospital 246**] rehab with SBO, asp PNA
   and respiratory failure
   1) Respiratory failure- s/p extubation with adequate oxygenation and
   ventilation. CXR looked worse yesterday and exam most consistent with
   CHF now but may be evolving asp PNA, will aggressively diurese today,
   repeat sputum cx
   2) Sepsis-resolving source suspect asp PNA.  Initally we were concerned
   about post surgical site changes - discussed with ortho and [**Doctor First Name **]
   onc and they feel it is not consistent with infection
 post op
   changes. Continues on empiric Vanco Ceftaz Falagl
   3) ARF-Resolved with resuscitation
   4)Afib-TTE neg for clot, restart coumadin, lovenox 50 [**Hospital1 **]
   5)Ileus: Aggressive bowel regimen.  Decompress abdomen. Continue NG
   tube for decompression. D'c meds from above. PO narcan, Enemas and
   reglan.
   6) Pain: Appreciate Pain consult, now on IV Ketamine with reasonable
   effect.
   ICU Care
   Nutrition: discus parenteral with Nutrition team
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-7-28**] 04:20 PM
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication:  with ot and wife
   [**Name (NI) 129**] status: Full code
   Disposition :ICU on ketamine and with worsening resp distress this AM

2104-08-01 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pain service recs: Decrease ketamine gtt to 15mc/hour, titrate up
   gabapentin, continue fentanyl patch, dilaudid IV prn, can add toradol
   prn for breakthrough, recommended holding on tizanadine due to concerns
   with sedation. Overnight pt's pain very poorly controlled, NGT with
   high (gastroocult positive ) output, likely not absorbing PO meds.
   Toradol and IV dilaudid with minimal effect, ketamine increased back to
   20mg/hour with no effect, pt oriented, alert, not hallucinating.  Pain
   service called, recommended increasing PO neuropathic agents and
   consideration of a PCA.  Pt lacked access for PCA.  Currently pain
   controlled, but written for fentanyl bolus should he need it.
   Increasing respiratory distress throughout the [**Known lastname 25**]. BNP elevated 7x
   greater than admission, CXR showed either multifocal consolidations vs
   ARDS vs CHF.  Given 40mg IV lasix x 2, 3L negative with interval
   improvement in respiratory distress, maintaining 02 sats.  Still
   tachypneic.
   Started on IV PPI for gastroccult + NGT output.  Hct stable.
   Broadened antibiotic coverage to include cipro for double GNR coverage.
   Legionella urinary antigen checked.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-7-31**] 07:50 PM
   Ceftazidime - [**2104-8-1**] 12:39 AM
   Vancomycin - [**2104-8-1**] 01:00 AM
   Metronidazole - [**2104-8-1**] 04:00 AM
   Infusions:
   Ketamine - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2104-7-31**] 08:05 PM
   Pantoprazole (Protonix) - [**2104-8-1**] 12:40 AM
   Enoxaparin (Lovenox) - [**2104-8-1**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2104-8-1**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-1**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 108 (82 - 108) bpm
   BP: 144/53(77) {119/44(64) - 169/154(158)} mmHg
   RR: 32 (18 - 33) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,751 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  1,651 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    675 mL
   Urine:
                                                                  2,375 mL
                                                                    175 mL
   NG:
                                                                    700 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General: Awake, sedated but answering all questions appropriately
   HEENT: NCAT, NGT in place.  New b./l facial flushing
   Neck: thick
   Pulmonary: Crackles anteriorly, with inspiratory wheezes, rhonchi
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Skin: facial flushing
   Neurologic: Awake, sedated, answering questions appropriately but has
   poor short term memory.  2/5 strength RLE, [**2-13**] LLE.
   Labs / Radiology
   281 K/uL
   9.5 g/dL
   96 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   23 mg/dL
   95 mEq/L
   136 mEq/L
   27.8 %
   16.0 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   Plt
   324
   290
   270
   [**Telephone/Fax (3) 264**]
   281
   Cr
   1.5
   1.2
   0.6
   0.5
   0.6
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   96
   Other labs: PT / PTT / INR:16.4/37.7/1.5, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis and ileus.
   .
   <I>PLAN:</I>
   .
   <I>## Ileus:</I>Narcotic related, transitioned to ketamine with
   assistance from pain service in effort to decrease narcotics burden.
   Persistent high NGT output, having soft stools.
   -D/c pro-osmotic diarrheal agents, focus on pro-kinetic bowel regimen
   -Continue reglan
   -Leave NGT in place for now.
   -Continue NPO, touch base again with nutrition re when to start TPN.
   -Continue to discuss with pain service methods to mimimize narcotics
   burden.
   -PO naloxone
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia.
   -Treating with Vanc/Flagyl/Ceftaz to cover MRSA, gram
   negatives/pseudomonas and anaerobes for planned 8 [**Known lastname 25**] course, currently
   [**Known lastname 25**] [**3-18**].
   -Growing rare growth GNR in sputum
   -Broadened abx to include cipro for double GNR coverage, [**Known lastname 25**] 2.
   -Today with increased 02 requirement, tachypnea and wheezes/crackles on
   exam.  CXR showed interval worsening of pulmpnary process, ddx includes
   CHF, multifocal PNA or ARDS.  Continue to diurese, goal 0.5-1L negative
   per [**Known lastname 25**] or until BUN/cr increases. Should pt continue to decompensate
   from respiratory perspective and require intubation, consider ARDSNET
   protocol.
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes.
   .
   <I>## > Coagulopathy:</I>resolved with vitamin K.
   .
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy will
   anticoagulate pt.  Will use lovenox for now as pt may need rapid
   reversal of ac in setting of any planned procedures.
   -treatment dose lovenox
   .
   <I>##Pain control:<I> Appreciate pain service
s input.  Is currently on
   higher dose ketamine gtt, dilaudid prn (did not get PCA due to limited
   access), neurontin, toradol prn.  Will need to discuss with them how pt
   not adequately controlled overnight, narcotics not a great option due
   to continued ileus and fact that pain is mostly neuropathic in nature.
   Will cover with Spine if there are currently absolutel
   contraindications to an intrathecal pump or whether a temporary
   epidural is possible.
   ICU Care
   Nutrition:
   NPO except meds
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC
   Prophylaxis:
   DVT: Boots, lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: pt and wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2104-08-01 09:46:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-7-31**] 07:50 PM
   Ceftazidime - [**2104-8-1**] 12:39 AM
   Metronidazole - [**2104-8-1**] 04:00 AM
   Vancomycin - [**2104-8-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-7-31**] 08:05 PM
   Pantoprazole (Protonix) - [**2104-8-1**] 12:40 AM
   Enoxaparin (Lovenox) - [**2104-8-1**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2104-8-1**] 05:15 AM
   Fentanyl - [**2104-8-1**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2104-8-1**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 101 (82 - 108) bpm
   BP: 136/62(77) {119/44(64) - 169/154(158)} mmHg
   RR: 30 (18 - 33) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,751 mL
                                                                    776 mL
   PO:
             TF:
   IVF:
                                                                  1,651 mL
                                                                    776 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    755 mL
   Urine:
                                                                  2,375 mL
                                                                    255 mL
   NG:
                                                                    700 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : ,
   Bronchial: anteriorly on the right , Wheezes : , Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   281 K/uL
   96 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   23 mg/dL
   95 mEq/L
   136 mEq/L
   27.8 %
   16.0 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   Plt
   324
   290
   270
   [**Telephone/Fax (3) 264**]
   281
   Cr
   1.5
   1.2
   0.6
   0.5
   0.6
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   96
   Other labs: PT / PTT / INR:16.4/37.7/1.5, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 69 yo male pmh significant for high grade
   sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] and
   anxiety/depression who presents from [**Hospital 246**] rehab with SBO, asp PNA
   and respiratory failure
   1) Respiratory failure- s/p extubation with adequate oxygenation and
   ventilation. CXR looked worse yesterday and exam most consistent with
   CHF now but may be evolving asp PNA, will aggressively diurese today,
   repeat sputum cx
   2) Sepsis-resolving source suspect asp PNA.  Initally we were concerned
   about post surgical site changes - discussed with ortho and [**Doctor First Name **]
   onc and they feel it is not consistent with infection
 post op
   changes. Continues on empiric Vanco Ceftaz Falagl
   3) ARF-Resolved with resuscitation
   4)Afib-TTE neg for clot, restart coumadin, lovenox 50 [**Hospital1 **]
   5)Ileus: Aggressive bowel regimen.  Decompress abdomen. Continue NG
   tube for decompression. D'c meds from above. PO narcan, Enemas and
   reglan.
   6) Pain: Appreciate Pain consult, now on IV Ketamine with reasonable
   effect.
   ICU Care
   Nutrition: NPO, need to clarify with Nutrition
   Glycemic Control:  prn SSRI
   Lines:
   20 Gauge - [**2104-7-28**] 04:20 PM
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Communication:  with pt and wife
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:

2104-08-02 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt again experienced significant breakthrough pain overnight. Appeared
   to respond very well to Haldol.
   Lactulose stopped.  Pt self d/c
d NGT; has not had recurrent nausea and
   thus have not replaced.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-8-1**] 05:29 PM
   Metronidazole - [**2104-8-1**] 08:00 PM
   Ciprofloxacin - [**2104-8-1**] 10:00 PM
   Ceftazidime - [**2104-8-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2104-8-1**] 08:45 AM
   Pantoprazole (Protonix) - [**2104-8-1**] 12:00 PM
   Enoxaparin (Lovenox) - [**2104-8-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-2**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 81 (80 - 101) bpm
   BP: 122/56(72) {97/47(60) - 152/73(88)} mmHg
   RR: 20 (18 - 32) insp/[**Year (4 digits) **]
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,235 mL
                                                                    288 mL
   PO:
             TF:
   IVF:
                                                                  2,235 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    785 mL
   Urine:
                                                                  1,775 mL
                                                                    785 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General: Awake, sedated but answering all questions appropriately
   HEENT: NCAT, NGT in place.  New b./l facial flushing
   Neck: thick
   Pulmonary: Crackles anteriorly, with inspiratory wheezes, rhonchi
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Skin: facial flushing
   Neurologic: Awake, sedated, answering questions appropriately but has
   poor short term memory.  2/5 strength RLE, [**2-13**] LLE.
   Labs / Radiology
   230 K/uL
   8.3 g/dL
   97 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.4 mEq/L
   19 mg/dL
   99 mEq/L
   137 mEq/L
   24.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   10.7
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   24.6
   Plt
   324
   290
   270
   [**Telephone/Fax (3) 264**]
   281
   230
   Cr
   1.5
   1.2
   0.6
   0.5
   0.6
   0.5
   0.5
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   96
   109
   97
   Other labs: PT / PTT / INR:19.1/37.7/1.8, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis and ileus.
   .
   <I>PLAN:</I>
   .
   <I>## Ileus:</I>Narcotic related, transitioned to ketamine with
   assistance from pain service in effort to decrease narcotics burden.
   Persistent high NGT output, having soft stools.
   -D/c pro-osmotic diarrheal agents, focus on pro-kinetic bowel regimen
   -Continue reglan
   -replace NGT if sxs develope
   -Appreciate nutrition input; plan to start TPN today
   -Continue to discuss with pain service methods to mimimize narcotics
   burden.
   -PO naloxone
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia.
   -Treating with Vanc/Flagyl/Ceftaz to cover MRSA, gram
   negatives/pseudomonas and anaerobes for planned 8 [**Known lastname 25**] course, currently
   [**Known lastname 25**] [**4-17**].
   -Growing rare growth GNR in sputum
   -Broadened abx to include cipro for double GNR coverage, [**Known lastname 25**] 2.
   -Noted to have increased 02 requirement, tachypnea and wheezes/crackles
   on yesterday.  CXR showed interval worsening of pulmpnary process, ddx
   includes CHF, multifocal PNA or ARDS.  Continue to diurese, goal 0.5-1L
   negative per [**Known lastname 25**] or until BUN/cr increases. Should pt continue to
   decompensate from respiratory perspective and require intubation,
   consider ARDSNET protocol.
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes.
   .
   <I>## > Coagulopathy:</I>resolved with vitamin K.
   .
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy will
   anticoagulate pt.  Will use lovenox for now as pt may need rapid
   reversal of ac in setting of any planned procedures.
   -treatment dose lovenox
   .
   <I>##Pain control:<I> Appreciate pain service
s input.  Is currently on
   ketamine gtt, dilaudid prn (did not get PCA due to limited access),
   neurontin, toradol prn.  Haldol appeared very effective overnight.
   Continue to consider possible epidural catheter placement.
   ICU Care
   Nutrition: PO diet as tolerated
   Glycemic Control:  sugars well controlled
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: on Lovenox
   Stress ulcer: PO diet
   Code status: Full code
   Disposition: MICU

2104-08-02 12:11:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure, ileus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 M PMH sarcoma with involvement of lumbar spine s/p anterior and
   posterior resection, readmitted from [**Hospital1 246**] for hypoxic respiratory
   failure and ileus.  During his course here he has been extubated,
   treated for an aspiration PNA with vanc/ceftaz/flagyl/cipro, and
   diuresed for volume overload with pumonary edema.
   24 Hour Events:
   -Self-discontinued NGT.
   -Required fentanyl boluses for pain control.
   -Received haldol for anxiety / agitation.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2104-8-1**] 08:00 PM
   Vancomycin - [**2104-8-2**] 08:00 AM
   Ceftazidime - [**2104-8-2**] 08:00 AM
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-1**] 12:00 PM
   Enoxaparin (Lovenox) - [**2104-8-1**] 04:00 PM
   Other medications:
   Neurontin 300 mg [**Hospital1 **]
   Narcan
   Ketamine
   Lasix 40 mg [**Hospital1 **]
   Colace 100 mg [**Hospital1 **]
   RISS
   Dulcolax
   Fentanyl patch 75 mcg/hr
   Reglan 10 mg Q6H
   Zyprexa 10 mg daily
   Toradol PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley
   Musculoskeletal: Joint pain
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2104-8-2**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 88 (80 - 101) bpm
   BP: 120/58(73) {97/47(60) - 152/73(88)} mmHg
   RR: 21 (18 - 32) insp/[**Year (4 digits) **]
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,235 mL
                                                                    828 mL
   PO:
             TF:
   IVF:
                                                                  2,235 mL
                                                                    828 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                  1,225 mL
   Urine:
                                                                  1,775 mL
                                                                    925 mL
   NG:
                                                                    500 mL
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 5 L
   SpO2: 97%
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   230 K/uL
   97 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.4 mEq/L
   19 mg/dL
   99 mEq/L
   137 mEq/L
   24.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   10.7
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   24.6
   Plt
   324
   290
   270
   [**Telephone/Fax (3) 264**]
   281
   230
   Cr
   1.5
   1.2
   0.6
   0.5
   0.6
   0.5
   0.5
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   96
   109
   97
   Other labs: PT / PTT / INR:19.1/37.7/1.8, CK / CKMB /
   Troponin-T:46/0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR ([**8-1**]) - Low lung volumes.  Diffuse bilateral opacities.
   Hilar fullness.
   Microbiology: Blood - Pending.
   Assessment and Plan
   69 M sarcoma s/p anterior and posterior lumbar resection admitted with
   hypoxemic respiratory failure from presumed aspiration pneumonia and
   ileus.  His ileus seems to be improved.  Recently, he has been volume
   overloaded but seems to be responding to diuresis.
   1)       Aspiration pneumonia  - Improving.  Will DC flagyl today.
   Continue vanc, ceftaz, cipro.  Will try to repeat sputum culture.  If
   he continues to improve, we will DC cipro tomorrow.
   2)       Pulmonary edema
 Continue lasix with I/O goal negative 500cc
   to 1 L.  Wean O2.
   3)       Ileus
 Continue NPO until NGT has been out for 24 hours.  [**Month (only) 11**]
   be able to start clears tomorrow.  Continue prokinetics and bowel
   regimen.
   4)       Pain
 Wean ketamine drip.  Continue IV fentanyl boluses in
   addition to fentanyl patch.  Increase p.m. dose of neurontin.  DC
   toradol.
   5)       Anxiety
 Has done well with low-dose valium in the past.
   Will start 2 mg PRN during the [**Known lastname 25**].  Low-dose haldol appeared to work
   well last night, which we can continue to use PRN.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  RISS
   Lines: Peripheral IVs.
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: Lovenox.
   Stress ulcer: Protonx
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Remains in ICU.
   Total time spent:

2104-08-03 03:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * NG tube was not replaced as patient had no N/V
   * Per pain, Ketamine was weaned off, Neurontin was increased to 600 mg
   QHS, Toradol was d/c'd and Valium 2 mg Q8
      PRN was added for anxiety with the option of Haldol PRN at night,
   which was not needed.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2104-8-1**] 08:00 PM
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Ceftazidime - [**2104-8-3**] 12:01 AM
   Vancomycin - [**2104-8-3**] 12:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2104-8-2**] 07:58 PM
   Pantoprazole (Protonix) - [**2104-8-2**] 08:25 PM
   Enoxaparin (Lovenox) - [**2104-8-2**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No n/v, no abd pain. + stooling
   Pain improved now ~[**4-19**] in back
   Asking to eat
   No SOB
   Flowsheet Data as of  [**2104-8-3**] 03:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 89 (80 - 98) bpm
   BP: 136/59(79) {102/47(62) - 147/61(80)} mmHg
   RR: 21 (18 - 26) insp/[**Year (4 digits) **]
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,500 mL
                                                                    362 mL
   PO:
             TF:
   IVF:
                                                                  1,500 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                    120 mL
   Urine:
                                                                  2,585 mL
                                                                    120 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,385 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 3L
   ABG: ///30/
   Physical Examination
   General: Awake, alert, appears more comfortable.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  2/5 strength
   RLE, [**2-13**] LLE.
   Labs / Radiology
   274 K/uL
   8.3 g/dL
   81 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   17 mg/dL
   99 mEq/L
   137 mEq/L
   28.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2104-7-28**]  05:48 PM
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
   WBC
   13.4
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   10.7
   Hct
   33.4
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   24.6
   Plt
   324
   290
   270
   [**Telephone/Fax (3) 264**]
   281
   230
   Cr
   1.5
   1.2
   0.6
   0.5
   0.6
   0.5
   0.5
   0.5
   TropT
   0.11
   0.10
   Glucose
   163
   152
   120
   99
   96
   109
   97
   95
   Other labs: PT / PTT / INR:19.1/37.7/2.0, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   CXR: Persistent b/l fluffy opacities c/w pulmonary edema vs multifocal
   PNA vs ARDS.  No significant change compared to prior.
   Assessment and Plan
   <I>ASSESSMENT:</I> 69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure, elevated
   INR, leukocytosis and ileus.
   .
   <I>PLAN:</I>
   .
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. Now NGT
   out since yesterday with no n/v.  Still having BMs. Asking to east.
   -Continue pro-kinetic bowel regimen
   -replace NGT if sxs develop
   -Advance diet to clears, if tolerates can do full liquids tonight.
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   -D/c PO naloxone, decrease IV reglan
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.
   -Treating with vanc/ceftaz [**Known lastname 25**] [**5-18**] for PNA
   -Growing rare growth GNR in sputum
   -continue diuresis with goal 500-1000cc negative today
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes.
   .
   <I>## > Coagulopathy:</I>INR slightly elevated this am, may be in
   setting of resolving ileus and abx use. Continue to monitor.
   .
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy will
   anticoagulate pt.  Will use lovenox for now as pt may need rapid
   reversal of ac in setting of any planned procedures.
   -treatment dose lovenox
   .
   <I>##Pain control:<I> Appreciate pain service
s input.
   -off ketamine gtt
   -increase neurontin to 600BID, monitor for sedation, if tolerates can
   advance to 600 TID
   -advance oral narcotics wuth 10-20mg morphine IR PO Q 3 prn, try
   tonight if tolerates clears trial
   -once tolerating PO, wean off IV prn narcotics
   -fentanyl patch
   -bowel regimen
   -prn valium
   -haldol HS prn
   ICU Care
   Nutrition: advancing to clears today, try full liquids tonight
   Glycemic Control:  sugars well controlled
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: on Lovenox
   Stress ulcer: PPI, change to PO from IV
   Code status: Full code
   Disposition: MICU, due to high level of rn care required.  PT to see pt
   tomorrow. ? d/c directly to rehab.

2104-08-03 11:33:00 Physician Attending Progress Note
Chief Complaint: Hypoxic respiratory failure, ileus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 M sarcoma with lumbar involvement s/p anterior & posterior resection
   in [**Month (only) 93**] admitted from rehab with apiration pneumonia secondary to ileus
   in the setting of high dose narcotics.  He was successfully extubated
   and has improved with diuresis in addition to antibiotics.  Other major
   issues include pain, anxiety and ileus.
   24 Hour Events:
   -Ketamine discontinued
   -Neurontin increased
   -Valium started PRN - required one dose yesterday, one this a.m.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2104-8-1**] 08:00 PM
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Ceftazidime - [**2104-8-3**] 12:01 AM
   Vancomycin - [**2104-8-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2104-8-2**] 08:25 PM
   Furosemide (Lasix) - [**2104-8-3**] 04:11 AM
   Fentanyl - [**2104-8-3**] 05:00 AM
   Pantoprazole (Protonix) - [**2104-8-3**] 08:00 AM
   Morphine Sulfate - [**2104-8-3**] 08:00 AM
   Other medications:
   Colace 100 mg [**Hospital1 **]
   RISS
   Dulcolax
   Fentanyl 75
   Reglan 10 mg Q6H
   Zyprexa
   Neurontin 300, 600
   Pantoprazole
   Narcan
   Lasix 40 mg [**Hospital1 **]
   Changes to medical and family history:  PMHx and SHx reviewed from
   admission without changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Hypoxia
   Genitourinary: Foley
   Musculoskeletal: Joint pain
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2104-8-3**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 89 (83 - 98) bpm
   BP: 132/73(81) {105/47(65) - 147/73(85)} mmHg
   RR: 20 (19 - 26) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,500 mL
                                                                    821 mL
   PO:
             90 mL
   TF:
   IVF:
                                                                  1,500 mL
                                                                    731 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                  1,270 mL
   Urine:
                                                                  2,585 mL
                                                                  1,270 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,385 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3 L
   SpO2: 96%
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   274 K/uL
   81 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   17 mg/dL
   99 mEq/L
   137 mEq/L
   28.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2104-7-29**]  02:52 AM
                             [**2104-7-30**]  03:58 AM
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
   WBC
   12.0
   12.8
   15.9
   16.4
   17.4
   16.0
   10.7
   11.7
   Hct
   29.0
   27.2
   27.1
   27.5
   28.7
   27.8
   24.6
   28.3
   Plt
   290
   270
   260
   266
   [**Telephone/Fax (2) 266**]74
   Cr
   1.2
   0.6
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   TropT
   0.10
   Glucose
   152
   120
   99
   96
   109
   97
   95
   81
   Other labs: PT / PTT / INR:20.9/52.5/2.0, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:87.7 %, Lymph:6.7 %, Mono:4.6 %,
   Eos:0.9 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CXR - Stable pulmonary edema.
   Microbiology: No new.
   Assessment and Plan
   69 M sarcoma s/p anterior & posterior lumbar resection admitted with
   hypoxic respiratory failure after an aspiration event in the setting of
   ileus.  His pain appears much better controlled today as is his
   anxiety.  His ileus also appears to be resolved.  He continues to be
   volume overloaded.
   1)       Respiratory failure
 Continue vancomycin, ceftaz.  Completes
   course in 2 [**Known lastname 247**].  Continue diuresis with goal negative 1 L.
   2)       Pain
 Continue fentanyl patch.  Increase neurontin to 600 mg
   [**Hospital1 **].  Will start MSIR once he
s toleratling po.  For now, continue
   fentanyl boluses PRN.
   3)       Ileus
 Will start liquid diet today and advance slowly as
   tolerated. DC narcan.  Decrease raglan.  Continue other bowel regimen.
   4)       Anxiety
 Well controlled on low-dose valium PRN.  Continue.
   5)       AF
 Therapeutic LMWH.  INR 2.0.  Will follow as we advance
   diet.
   ICU Care
   Nutrition: Clear liquids today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Pantoprazole
 change to oral
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Remains in ICU.  PT consult.
   Total time spent: 35 minutes

2104-08-04 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated advancing diet to clears --> full liquids
   Started on PO pain meds, trying to transition off IV.  IV fentanyl
   d/c'd.
   Neurontin increased to 600mg [**Hospital1 **]
   Vancomycing held for trough 22
   Persistent elevation in INR
   Reglan decreased, oral naloxone discontinued.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2104-8-1**] 08:00 PM
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Vancomycin - [**2104-8-3**] 08:00 AM
   Ceftazidime - [**2104-8-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-3**] 08:00 AM
   Furosemide (Lasix) - [**2104-8-3**] 04:00 PM
   Fentanyl - [**2104-8-3**] 04:16 PM
   Enoxaparin (Lovenox) - [**2104-8-3**] 08:51 PM
   Morphine Sulfate - [**2104-8-4**] 04:07 AM
   Flowsheet Data as of  [**2104-8-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 97 (83 - 103) bpm
   BP: 160/71(91) {99/43(60) - 160/73(91)} mmHg
   RR: 18 (15 - 24) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,132 mL
                                                                    137 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,042 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  3,685 mL
                                                                    670 mL
   Urine:
                                                                  3,685 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,553 mL
                                                                   -533 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General: Awake, alert, appears more comfortable.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  2/5 strength
   RLE, [**2-13**] LLE.
   Labs / Radiology
   305 K/uL
   10.2 g/dL
   93 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   98 mEq/L
   139 mEq/L
   31.4 %
   15.0 K/uL
        [image002.jpg]
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
   WBC
   15.9
   16.4
   17.4
   16.0
   10.7
   11.7
   15.0
   Hct
   27.1
   27.5
   28.7
   27.8
   24.6
   28.3
   31.4
   Plt
   [**Telephone/Fax (2) 268**]
   305
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   99
   96
   109
   97
   95
   81
   86
   93
   Other labs: PT / PTT / INR:24.4/43.3/2.4,
   Assessment and Plan
   ASSESSMENT:  69M with recently diagnosed high grade sarcoma s/p
   resection presents from NH with hypoxic respiratory failure likely from
   aspiration of GI contents in setting of ileus.
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. Now NGT
   out since yesterday with no n/v.  Still having BMs. Asking to east.
   -Continue pro-kinetic bowel regimen (Reglan & Bisacodyl) along w/ [**Last Name (un) 269**]
   & colace
   -replace NGT if sxs develop
   -Advance diet to regular
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   - PO naloxone if sx
s recurr
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.  CXR improved w/ diuresis
   -Treating with vanc/ceftaz [**Known lastname 25**] [**6-17**] for PNA
   -Growing rare growth GNR in sputum
   -continue diuresis with goal -1000cc negative today
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes. Spoke w/ RadOnc service.  They report plan to hold on XRT
   until mid-[**Month (only) 270**] (at earliest) to allow pt to recover from acute
   illness
[**First Name8 (NamePattern2) 271**] [**Doctor Last Name 272**] is the rad onc resident who follows Mr. [**Known lastname 25**].
   <I>## > Coagulopathy:</I>INR elevatedat 2.4 despite being off of
   coumadin.  Suspect [**1-12**] abx use/altered gut flora. Continue to monitor.
     Will hold lovenox.
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy pt felt to
   need continued anticoagulation.
   - hold anti-coag while INR supratherapeutic
   <I>##Pain control:<I> Appreciate pain service
s input.
   -increase neurontin to 600BID, monitor for sedation, if tolerates can
   advance to 600 TID
   -advance oral narcotics with 10-20mg morphine IR PO Q 3 prn
   -once tolerating PO, wean off IV prn narcotics
   -fentanyl patch
   -bowel regimen
   -prn valium
   -haldol HS prn
   ICU Care
   Nutrition: advancing to clears today, try full liquids tonight
   Glycemic Control:  sugars well controlled
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: on Lovenox
   Stress ulcer: PPI, change to PO from IV
   Code status: Full code
   Disposition: MICU, due to high level of rn care required.  PT to see
   pt. ? d/c directly to rehab.

2104-08-04 11:24:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated clears and advanced to full liquids.
   Plan was transition to po pain meds- but still got IV overnight
   Nuerotin inc to 600
   Vanco held for trough of 22
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2104-8-1**] 08:00 PM
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Ceftazidime - [**2104-8-3**] 12:00 PM
   Vancomycin - [**2104-8-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-8-3**] 04:00 PM
   Fentanyl - [**2104-8-3**] 04:16 PM
   Morphine Sulfate - [**2104-8-4**] 04:07 AM
   Enoxaparin (Lovenox) - [**2104-8-4**] 08:00 AM
   Pantoprazole (Protonix) - [**2104-8-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-4**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 90 (83 - 103) bpm
   BP: 114/39(56) {99/39(56) - 160/71(91)} mmHg
   RR: 15 (14 - 24) insp/[**Year (4 digits) **]
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,132 mL
                                                                    547 mL
   PO:
                                                                     90 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,042 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  3,685 mL
                                                                    945 mL
   Urine:
                                                                  3,685 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,553 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Gen: lyin gin bed alert conversant NAD
   CV: RR
   Chest: scattered rales with inspiration, no wheezes
   Abd: obsese soft+ BS
   Ext
 decreased edema
   Labs / Radiology
   10.2 g/dL
   305 K/uL
   93 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   98 mEq/L
   139 mEq/L
   31.4 %
   15.0 K/uL
        [image002.jpg]
                             [**2104-7-31**]  12:29 AM
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
   WBC
   15.9
   16.4
   17.4
   16.0
   10.7
   11.7
   15.0
   Hct
   27.1
   27.5
   28.7
   27.8
   24.6
   28.3
   31.4
   Plt
   [**Telephone/Fax (3) 268**]
   305
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   99
   96
   109
   97
   95
   81
   86
   93
   Other labs: PT / PTT / INR:24.4/43.3/2.4, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:3.8 %,
   Eos:3.3 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   69 M sarcoma s/p anterior & posterior lumbar resection admitted with
   hypoxic respiratory failure after an aspiration event in the setting of
   ileus.  His pain appears much better controlled today as is his
   anxiety.  His ileus also appears to be resolved.  He continues to be
   volume overloaded.
   1)       Respiratory distress
 much improved with aggressive diuresis.
   Continues on final [**Known lastname 25**] vancomycin, ceftaz complete course tomorrow.
   Goal 500 cc negative per [**Known lastname 25**] until Cr bumps.
   2)       Pain
 Appreciate Acute Pain Service reccs. Will d/c IV
   morphine except prn to be approved by MD and use MSIR.   Increase
   neurontin to 600 mg [**Hospital1 **].
   3)       Ileus
Advance slowly as tolerated.  Continue other bowel
   regimen. NGT back in if any nausea or vomiting.
   4)       Anxiety
 Well controlled on low-dose valium PRN.  Continue.
   5)       AF
 Therapeutic LMWH.  INR 2.0.  Will follow as we advance
   diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   Communication:  with ot and wife
   [**Name (NI) 129**] status: Full code
   Disposition : ICU until does not need q1-2 IV push morphine

2104-08-05 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received 4mg morphine IV x1 for hip pain
   Neurontin inc. to 600 tid per pain service
   Lasix inc. to 60mg [**Hospital1 **], lovenox d/c'd
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-8-2**] 08:00 AM
   Ceftazidime - [**2104-8-4**] 12:00 PM
   Vancomycin - [**2104-8-5**] 12:17 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2104-8-4**] 08:00 AM
   Pantoprazole (Protonix) - [**2104-8-4**] 08:00 AM
   Furosemide (Lasix) - [**2104-8-5**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-5**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 98 (86 - 98) bpm
   BP: 153/55(77) {101/39(56) - 162/118(128)} mmHg
   RR: 15 (14 - 23) insp/[**Year (4 digits) **]
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  1,652 mL
                                                                    329 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    932 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    670 mL
   Urine:
                                                                  2,775 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,123 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General: Awake, alert, appears more comfortable.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  2/5 strength
   RLE, [**2-13**] LLE.
   Labs / Radiology
   244 K/uL
   9.3 g/dL
   110 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   13 mg/dL
   99 mEq/L
   140 mEq/L
   28.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2104-7-31**]  03:24 AM
                             [**2104-8-1**]  12:24 AM
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
   WBC
   16.4
   17.4
   16.0
   10.7
   11.7
   15.0
   15.3
   Hct
   27.5
   28.7
   27.8
   24.6
   28.3
   31.4
   28.7
   Plt
   266
   254
   281
   230
   274
   305
   244
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   Glucose
   99
   96
   109
   97
   95
   81
   86
   93
   110
   Other labs: PT / PTT / INR:25.1/39.7/2.5, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:3.8 %,
   Eos:3.3 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. NGT out
   for multiple [**Known lastname 247**] with no n/v.  Still having BMs.   Tolerating Pos.
   -Continue pro-kinetic bowel regimen (Reglan & Bisacodyl) along w/ [**Last Name (un) 269**]
   & colace
   -replace NGT if sxs develop
   -Advance diet to regular
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   - PO naloxone if sx
s recurr
   <I>## Respiratory failure:</I>Likely due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.  CXR improved w/ diuresis.
   -Treating with vanc/ceftaz [**Known lastname 25**] [**6-17**] for PNA
   -Growing rare growth GNR in sputum
   -continue diuresis with goal -500 to 1000cc negative today; may need a
   dose of diamox as HC03 is rising w/ diuretic
   .
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes. Spoke w/ RadOnc service.  They report plan to hold on XRT
   until mid-[**Month (only) 270**] (at earliest) to allow pt to recover from acute
   illness
[**First Name8 (NamePattern2) 271**] [**Doctor Last Name 272**] is the rad onc resident who follows Mr. [**Known lastname 25**].
   <I>## > Coagulopathy:</I>INR elevatedat 2.5 despite being off of
   coumadin.  Suspect [**1-12**] abx use/altered gut flora. Continue to
   monitor.   Will hold lovenox.
   <I>## Anticoagulation:</I>Pt had transient AF in setting of
   intubation/levophed.  Repeat ecg NSR.  No known prior h/o AF although
   pt on coumadin. Pt noted to be in AF again on tele, confirmed on ecg.
   After research with the patient
s rehab, there is no  known history of
   a DVT.   Pt appears to have been started on coumadin after his spine
   surgery for prophylaxis. In setting of new AF, malignancy pt felt to
   need continued anticoagulation.
   - hold anti-coag while INR supratherapeutic
   <I>##Pain control:<I> Appreciate pain service
s input.
   -increase neurontin to 600 TID
   -advance oral narcotics with 10-20mg morphine IR PO Q 3 prn
   -once tolerating PO, wean off IV prn narcotics
   -fentanyl patch
   -bowel regimen
   -prn valium
   -haldol HS prn
   ICU Care
   Nutrition: PO
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Callout to wards

2104-08-06 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt treated with BiPAP overnight
 Fentanyl patch dosing increased
 Pt noted to be somnolent on rounds, responsive only to vigorous
   sternal rub
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-6**] 12:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-5**] 08:00 AM
   Furosemide (Lasix) - [**2104-8-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-6**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 105 (92 - 114) bpm
   BP: 144/47(71) {119/46(64) - 166/78(93)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,901 mL
                                                                    501 mL
   PO:
                                                                    780 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,121 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    780 mL
   Urine:
                                                                  3,570 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,669 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 92%
   Physical Examination
   General: Awake, appears comfortable, slightly drowsy.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  2/5 strength
   RLE, [**2-13**] LLE.
   Labs / Radiology
   284 K/uL
   9.4 g/dL
   126 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   13 mg/dL
   95 mEq/L
   137 mEq/L
   28.5 %
   17.5 K/uL
        [image002.jpg]
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
   WBC
   16.0
   10.7
   11.7
   15.0
   15.3
   17.5
   Hct
   27.8
   24.6
   28.3
   31.4
   28.7
   28.5
   Plt
   [**Telephone/Fax (3) 276**]
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   96
   109
   97
   95
   81
   86
   93
   110
   165
   126
   Other labs: PT / PTT / INR:22.1/32.1/2.1, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:3.8 %,
   Eos:3.3 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Slowly improving.
   <I>## Respiratory failure:</I> Resolved.  Likely due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.  CXR improved w/ diuresis.  Pt w/ occasional periods of
   desaturation into the 80s while sleeping for the past few [**Known lastname 247**].
   Suspect this is due undiagnosed OSA.
   -Have completed 8 [**Known lastname 25**] course of vanc/ceftaz for PNA
   -Continue diuresis with goal -500 negative today; may need a dose of
   diamox as HCO3 is rising w/ diuresis
   -tolerated CPAP trial overnight
   <I>## Low grade temps/elevated WBC count:</I> Concerning for infection.
   Have send blood, urine and sputum cx. CXR from today without evidence
   of new infiltrate. Concern for possible lumbar area infection based on
   prior CT findings. Plan to re-image today.
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. NGT out
   for multiple [**Known lastname 247**] with no n/v.  Still having BMs, though none since
   yesterday.   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   -replace NGT if sxs develop
   -regular diet
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   -Continue PO naloxone; pt with positive stool outpt
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes. Spoke w/ RadOnc service.  They report plan to hold on XRT
   until mid-[**Month (only) 270**] (at earliest) to allow pt to recover from acute
   illness
[**First Name8 (NamePattern2) 271**] [**Doctor Last Name 272**] is the rad onc resident who follows Mr. [**Known lastname 25**].
   <I>## > Coagulopathy/ Anticoagulation </I>INR elevated at 2.1 despite
   being off Coumadin.  Suspect [**1-12**] abx use/altered gut flora. Pt was on
   coumadin at rehab
reason not totally clear, although it was likely for
   DVT prophylaxis.  There is no known history of a DVT.  Pt w/ paroxysmal
   AF here, though no known prior h/o AF.  In setting of new AF, pt felt
   to need continued anticoagulation.
   - Continue to monitor INR.  Start Coumadin today.
   <I>##Pain control:<I> Well controlled on new regimen.
   - Appreciate pain service
s input.
   - con
t increase neurontin to 600 TID
   -Increase fentanyl patch to 100mcg given pt w/ high breakthrough pain
   med demands (had been getting close to 120mg of MSIR /24hr)
   -MSIR 10-20mg q4hr PRN; avoid IV pain meds unless pain refractory to PO
   meds
   -bowel regimen
   -prn valium
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  insulin SS
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: coagulopathic
   Stress ulcer: PO diet/PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU for now

2104-08-06 11:41:00 Physician Attending Progress Note
Chief Complaint:
   HPI:  I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: Mr. [**Known lastname **] is a 69 yo male pmh
   significant for high grade sarcoma/peripheral nerve sheath tumor s/p
   debulking [**2104-7-3**] and anxiety/depression who presents from [**Hospital 246**]
   rehab with ileus, aspiration, pain control and CHF.  Intubated in ER
   secondary to acute respiratory failure in the setting of vomiting
   feculent emesis.  Ileus resolving, PNA resolving, CHF resolving
   continued pain managment issues.
   24 Hour Events:Cpap over night tolerated well.  Fentyl patch
   increased.  Very somulent this am awoke with sternal rub then stayed
   awake. ABG sent.  Received 15mg morphine at 9:00am.
 NON-INVASIVE VENTILATION - START [**2104-8-6**] 02:10 AM
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-6**] 12:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-8-6**] 04:22 AM
   Pantoprazole (Protonix) - [**2104-8-6**] 09:00 AM
   Other medications:
   RISS
   Biscodyl
   Fentanyl 100mcg
   Olazapine
   Lasix 40 [**Hospital1 **]
   Reglan 5q6
   Neurontin 600 tid
   Lidocain patch
   Colace
   Senna prn
   Valium PRN
   Tylenol
   Trazadone
   Morphine sulfate IR 10-20mg prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged
   Flowsheet Data as of  [**2104-8-6**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 111 (92 - 114) bpm
   BP: 109/45(60) {109/43(58) - 160/78(93)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,901 mL
                                                                    882 mL
   PO:
                                                                    780 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  1,121 mL
                                                                    532 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                  1,100 mL
   Urine:
                                                                  3,570 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,669 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///35/
   Physical Examination Gen: .  HEENT: PERRL, EOMI.  Neck: Unable to
   visualize JVP, Lungs: decreased BS bases no overt wheeze or rhales, CV:
   RRR s1s2 no m/r/g appreciated.  Abdomen: hypoactive BS, Less Distended,
   tympanetic, no r/g. ext: 2+ LE edema bilaterally.   Skin: Warm and
   dry.
   Labs / Radiology
   9.4 g/dL
   284 K/uL
   126 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   13 mg/dL
   95 mEq/L
   137 mEq/L
   28.5 %
   17.5 K/uL
        [image002.jpg]
                             [**2104-8-1**]  03:29 AM
                             [**2104-8-1**]  03:17 PM
                             [**2104-8-2**]  04:02 AM
                             [**2104-8-2**]  03:12 PM
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
   WBC
   16.0
   10.7
   11.7
   15.0
   15.3
   17.5
   Hct
   27.8
   24.6
   28.3
   31.4
   28.7
   28.5
   Plt
   [**Telephone/Fax (2) 276**]
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   96
   109
   97
   95
   81
   86
   93
   110
   165
   126
   Other labs: PT / PTT / INR:22.1/32.1/2.1, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:3.8 %,
   Eos:3.3 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan  Mr. [**Known lastname **] is a 69 yo male pmh significant for high
   grade sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] and
   anxiety/depression who presents from [**Hospital 246**] rehab with acute
   respiratory failure with and  ileus secondary to pain control,
   aspiration PNA, and volume overload.
   1)Respiratory failure-Improved.  Tolerated nocturnal CPAP trial
 would
   keep on when daytime sleeping and at night. Will continue lasix 40mg iv
   and goal even to negative 500ml given evidence of contraction by labs
   2)Low grade fevers, WBC, pan cultured, C.Diff will check.  Will  rescan
   back  given rising WBC, low grade fevers off antibiotics and no clear
   source. Check LFts
   3)Afib-Will restart coumadin 1mg tonight.
   4)Ileus-Aggressive bowel regimen.   Reglan change to 10mg po q6hr,
   senna/biscodaly colace  prn Narcan today.
   5)Pain: fentyl patch, neurontic PO, oral morphine for breakthrough.
   Will increase Fentanyl patch based on oral morphine intake. For spasms
   may need to add back a muscle
   6)ICU Access:  picc line/peripheral. PPI.
   ICU Care
   Nutrition: po diet, nutrition following
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer:
   Communication:  with pt and wife
   [**Name (NI) 129**] status: Full code
   Disposition : ICU for NIPPV until stable settings

2104-08-07 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-8-6**] 08:30 AM
   PICC line
 SPUTUM CULTURE - At [**2104-8-6**] 09:00 AM
   Expectorated
 NON-INVASIVE VENTILATION - STOP [**2104-8-6**] 09:00 AM
 URINE CULTURE - At [**2104-8-6**] 09:30 AM
 STOOL CULTURE - At [**2104-8-6**] 12:22 PM
 NON-INVASIVE VENTILATION - START [**2104-8-6**] 10:10 PM
   Intermittently in pain and overly sedated yesterday on narcotics with
   periods of decreased arousal and hypopnea.
   Had CT spine for concern of low grade fever and elevated WBC count
   which while a limited study on dictation was noted to be worse than
   prior.
   Pt somnolent in evening, skin mottled, borderline hypotensive in 90s.
   Lasix gtt held for hypotension and contraction alkalosis.  Pt given
   vancomycin for concern for ongoing back infection.  ABG showed
   7.4/68/89.  Was placed on BiPap overnight.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-6**] 11:41 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-6**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 98 (93 - 123) bpm
   BP: 127/58(75) {93/33(50) - 150/63(84)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,830 mL
                                                                    131 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                  1,030 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    290 mL
   Urine:
                                                                  2,620 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (565 - 565) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: 7.39/66/71/40/11
   Ve: 8.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General: Awake, appears comfortable, slightly drowsy.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  2/5 strength
   RLE, [**2-13**] LLE.
   Labs / Radiology
   254 K/uL
   8.6 g/dL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.1 mEq/L
   15 mg/dL
   95 mEq/L
   137 mEq/L
   26.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
   WBC
   11.7
   15.0
   15.3
   17.5
   14.1
   Hct
   28.3
   31.4
   28.7
   28.5
   26.1
   Plt
   274
   305
   244
   284
   254
   Cr
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.6
   0.6
   TCO2
   44
   41
   Glucose
   81
   86
   93
   110
   165
   126
   137
   114
   Other labs: PT / PTT / INR:20.9/31.6/2.0, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Slowly improving.
   <I>## Respiratory failure:</I> Largely resolved, although pt now with
   some recurrent CO2 retention in setting of pain medication titration
   and possible undiagnosed OSA. Initially thought due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.
   -Have completed 8 [**Known lastname 25**] course of vanc/ceftaz for PNA
   -Continue diuresis today as BP will tolerate; may need a dose of diamox
   as HCO3 is rising w/ diuresis
   -tolerated CPAP trial overnight
   <I>## Low grade temps/elevated WBC count:</I> Concerning for infection.
   Repeat CT scan of surgical site appears to show some progression that
   is concerning; based on this, have restarted empiric vancomycin and
   Zosyn. Have sent blood, urine and sputum cx.
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. NGT out
   for multiple [**Known lastname 247**] with no n/v.  Still having BMs, though none since
   yesterday.   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   -replace NGT if sxs develop
   -regular diet
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   -Continue PO naloxone; pt with positive stool outpt
   <I>## High Grade Sarcoma.  s/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes. Spoke w/ RadOnc service.  They report plan to hold on XRT
   until mid-[**Month (only) 270**] (at earliest) to allow pt to recover from acute
   illness
[**First Name8 (NamePattern2) 271**] [**Doctor Last Name 272**] is the rad onc resident who follows Mr. [**Known lastname 25**].
   <I>## > Coagulopathy/ Anticoagulation </I>INR elevated at 2.1 despite
   being off Coumadin.  Suspect [**1-12**] abx use/altered gut flora. Pt was on
   coumadin at rehab
reason not totally clear, although it was likely for
   DVT prophylaxis.  There is no known history of a DVT.  Pt w/ paroxysmal
   AF here, though no known prior h/o AF.  In setting of new AF, pt felt
   to need continued anticoagulation.
   - Continue to monitor INR.  Low dose Coumadin started.
   <I>##Pain control:<I> Well controlled on new regimen, although still
   balancing need for pain control with goal of limiting sedation.
   - Appreciate pain service
s input.
   - con
t increase neurontin to 600 TID
   -Increase fentanyl patch to 100mcg given pt w/ high breakthrough pain
   med demands (had been getting close to 120mg of MSIR /24hr)
   -MSIR 10-20mg q4hr PRN; avoid IV pain meds unless pain refractory to PO
   meds
   -bowel regimen
   -prn valium
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: PO diet/PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2104-08-07 08:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: Mr. [**Known lastname **] is a 69 yo male pmh
   significant for high grade sarcoma/peripheral nerve sheath tumor s/p
   debulking [**2104-7-3**] and anxiety/depression who presents from [**Hospital 246**]
   rehab with ileus, aspiration, pain control and CHF.  Intubated in ER
   secondary to acute respiratory failure in the setting of vomiting
   feculent emesis.  Ileus resolving, PNA resolving, CHF resolving
   continued pain managment issues.
   24 Hour Events:CT spine-expanding area spine infection vrs tumor will
   clarify.  In evening skin mottled and hypotensive.  Placed on bipap
   7.4/68/89.  Vanc and zosyn restarted.
 BLOOD CULTURED - At [**2104-8-6**] 08:30 AM
   PICC line
 SPUTUM CULTURE - At [**2104-8-6**] 09:00 AM
   Expectorated
 NON-INVASIVE VENTILATION - STOP [**2104-8-6**] 09:00 AM
 URINE CULTURE - At [**2104-8-6**] 09:30 AM
 STOOL CULTURE - At [**2104-8-6**] 12:22 PM
 NON-INVASIVE VENTILATION - START [**2104-8-6**] 10:10 PM
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-6**] 11:41 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-6**] 09:00 AM
   Other medications:
   Bisacodyl
   Olanzapine
   Protonix
   Lidocain patch
   Docusate
   Senna
   Fentanyl patch
   Reglan 10qid
   Neurontin
   Coumadin
   Vancomycin 1250Q12
   Zosyn Q 8 one time dose started.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-7**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 96 (93 - 123) bpm
   BP: 138/60(79) {93/33(50) - 150/63(84)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,830 mL
                                                                    161 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                  1,030 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    290 mL
   Urine:
                                                                  2,620 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (565 - 565) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.39/66/71/40/11
   Ve: 8.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen: .  HEENT: PERRL, EOMI.  Neck: Unable to visualize JVP, Lungs:
   decreased BS bases no overt wheeze or rhales, CV: RRR s1s2 no m/r/g
   appreciated.  Abdomen: hypoactive BS, Less Distended, tympanetic, no
   r/g. ext: 2+ LE edema bilaterally.   Skin: Warm and dry.
   Labs / Radiology
   8.6 g/dL
   254 K/uL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.1 mEq/L
   15 mg/dL
   95 mEq/L
   137 mEq/L
   26.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2104-8-3**]  03:38 AM
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
   WBC
   11.7
   15.0
   15.3
   17.5
   14.1
   Hct
   28.3
   31.4
   28.7
   28.5
   26.1
   Plt
   274
   305
   244
   284
   254
   Cr
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.6
   0.6
   TCO2
   44
   41
   Glucose
   81
   86
   93
   110
   165
   126
   137
   114
   Other labs: PT / PTT / INR:20.9/31.6/2.0, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan: 69 yo male pmh significant for high grade
   sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] course
   complicated by pain control and hypercarbia.
   1)Respiratory failure- Tolerated nocturnal CPAP
 would keep on when
   daytime sleeping and at night. Will hold lasix 40mg iv and goal even to
   negative 500ml given evidence of contraction by labs
   2)Low grade fevers, WBC, pan cultured, C.Diff will check.  Will  review
   CT findings with surgery back on vanc/zosyn empirically.  Will resend
   urine and change foley. Will check chest x-ray also.
   3)Afib-on  coumadin 1mg tonight.
   4)Ileus-Aggressive bowel regimen.   Reglan change to 10mg po q6hr,
   senna/biscodal colace  prn Narcan as needed.
   5)Pain: Will decrease fentyl patch to 75mcg. continue neurontic PO,
   oral morphine for breakthrough.   For spasms may need to add back a
   muscle
   6)Sarcoma-Concerning for progression will discuss with oncologist and
   surgeon for plan.
   6)ICU Access:  picc line/peripheral. PPI.
   ICU Care
   Nutrition: po diet
   Glycemic Control:  ssri
   Lines:
   18 Gauge - [**2104-7-28**] 04:21 PM
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: ppi
   Communication:  with pt and wife. Need to clarify with primary Onc,
   Ortho and RadOnc Attgs ultimate plan. The hope had been to derefer XRT
   until he was back at rehab but not clear when we will be able to get
   him to that point and tumor is gorwing even in past 10 [**Known lastname 247**].  In the
   larger picture, his overall prognosis is grim and further discussion
   about prognosis and goals of csare is need once we clarify issues anove
   with Onc team.
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2104-08-08 07:45:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    I saw and examined the patient, and was physically present with the
   ICU team for the key portions of the services provided. I agree with
   the note above, including the assessment and plan. I would emphasize
   and add the following points: Mr. [**Known lastname **] is a 69 yo male pmh significant
   for high grade sarcoma/peripheral nerve sheath tumor s/p debulking
   [**2104-7-3**] and anxiety/depression who presents from [**Hospital 246**] rehab with
   ileus, aspiration, pain control and CHF.  Intubated in ER secondary to
   acute respiratory failure in the setting of vomiting feculent emesis.
   Ileus resolving, PNA resolving, CHF resolving continued pain manegment
   issues and management of sarcoma.
   24 Hour Events:Decreased sensation LE and increased weakness with
   concern of continued tumor progression.  Seen and evaluated by
   orthopedics and radiation oncology. Given progression rad Onc planning
   mapping and initiation of radiation therapy for palliation.
 NON-INVASIVE VENTILATION - STOP [**2104-8-7**] 08:34 AM
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-8**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-8**] 02:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-7**] 08:00 AM
   Other medications:
   Senna
   Raglan 10 qid
   Fentanyl patch 75mcg
   Neurontin
   Coumadin 1mg
   Vancomycin 1250 q12
   Zosyn
   RISS
   Zyprexa 10mg
   Protonix po
   Lidocain patch
   Colace
   Tylenol prn
   Morphine PRN 15mg 11pm last prn dose.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-8**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 104 (84 - 104) bpm
   BP: 122/51(67) {99/38(55) - 135/64(78)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,841 mL
                                                                    434 mL
   PO:
                                                                    910 mL
             TF:
   IVF:
                                                                    931 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    400 mL
   Urine:
                                                                  1,020 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    821 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 0 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///39/
   Ve: 5.2 L/min
   Physical Examination
   Gen: .  HEENT: PERRL, EOMI.  Neck: Unable to visualize JVP, Lungs:
   decreased BS bases no overt wheeze or rhales, CV: RRR s1s2 no m/r/g
   appreciated.  Abdomen: normoactive BS, Less Distended, no r/g. ext: 2+
   LE edema bilaterally.   Skin: Warm and dry.
   Labs / Radiology: Chest unchanged from prior
   7.9 g/dL
   260 K/uL
   102 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.9 mEq/L
   15 mg/dL
   95 mEq/L
   137 mEq/L
   23.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
   WBC
   15.0
   15.3
   17.5
   14.1
   16.2
   Hct
   31.4
   28.7
   28.5
   26.1
   23.8
   Plt
   [**Telephone/Fax (3) 287**]54
   260
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   TCO2
   44
   41
   Glucose
   86
   93
   110
   165
   126
   137
   114
   102
   Other labs: PT / PTT / INR:19.7/31.6/1.8, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Sputum >25pmn  oral flora  UA-Cloudy no growth.
   Assessment and Plan69 yo male pmh significant for high grade
   sarcoma/peripheral nerve sheath tumor s/p debulking [**2104-7-3**] course
   complicated by pain control and hypercarbia.
   1)sarcoma-Will have meeting with Rad onc/orthopedics and consider
   involving oncology is determining management plan.
   2)Respiratory failure- Tolerated nocturnal CPAP
 would keep on when
   daytime sleeping and at night. Will restart lasix 40mg iv and goal even
   to negative 500ml given evidence of contraction by labs
   3)Low grade fevers, WBC, pan cultured, C.Diff will check.    CT
   findings still possible infection will continue vanc/zosyn
   empirically.
   4)Afib-on coumadin will hold given Hct drop.
   5)Ileus-Aggressive bowel regimen, well controlled.   Reglan change to
   10mg po q6hr, senna/biscodal colace  prn Narcan as needed.
   6)Pain: Continue fent patch to 75mcg.  If increased solumence can
   decrease fent to 50mcg and continue neurontic PO, oral morphine for
   breakthrough.   For spasms may need to add back a muscle.  Palliative
   care consult.
   7)Heme-Continued Hct drop will check for hemolysis, bleeding.  Will
   transfuse 1unit of blood.
   8) Access:  picc line/peripheral. PPI.
   Key issues: Extremely poor prognosis with aggressive sarcoma, not a
   candidate for further surgical intervention. Pain is less severe,
   making radiation less indicated and the logistics of getting to/from
   radiation may be too overwhelming and painful. Need family meeting to
   address all of these issues as well as code status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Consider transfer to Onc service.
   Total time spent: 60 minutes
   Critically ill due to aggressive rapidly progressing osteosarcoma with
   paralysis

2104-08-08 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt noted to have decreased motor & sensation in LE.
   -          Dr. [**Last Name (STitle) 253**] of ortho spine saw pt & wife y
[**Known lastname 25**] & this AM and
   discussed with them the progression seen on CT.  There is no plan for
   additional surgery
per pt
s wishes and ortho spine
s recommendation.
   -          Rad Onc saw pt yesterday and reviewed potential tx plan
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-8**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-8**] 02:32 AM
   Flowsheet Data as of  [**2104-8-8**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 102 (84 - 104) bpm
   BP: 124/49(66) {99/38(55) - 135/54(72)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,841 mL
                                                                    554 mL
   PO:
                                                                    910 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    931 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    455 mL
   Urine:
                                                                  1,020 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    821 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 0 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///39/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   7.9 g/dL
   102 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.9 mEq/L
   15 mg/dL
   95 mEq/L
   137 mEq/L
   23.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
   WBC
   15.0
   15.3
   17.5
   14.1
   16.2
   Hct
   31.4
   28.7
   28.5
   26.1
   23.8
   Plt
   [**Telephone/Fax (3) 287**]54
   260
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   TCO2
   44
   41
   Glucose
   86
   93
   110
   165
   126
   137
   114
   102
   Other labs: PT / PTT / INR:19.7/31.6/1.8, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Microbiology: Sputum: >25 PMNs and <10 epithelial cells/100X field.
    3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
    OROPHARYNGEAL FLORA.
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Slowly improving.
   <I>## High Grade Sarcoma.  S/p resection by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**].  CT
   showed stranding and air in surgical site, films reviewed by surgical
   teams who agreed these findings were consistent with post operative
   changes. Repeat CT scan, however, does show interval progression of
   mass. Have spoken w/ RadOnc service and will t/b with surgical oncology
   today. [**First Name8 (NamePattern2) 271**] [**Doctor Last Name 272**] is the rad onc resident who follows Mr. [**Known lastname **].
   <I>## Respiratory failure:</I> Largely resolved, although pt now with
   some recurrent CO2 retention in setting of pain medication titration
   and possible undiagnosed OSA. Initially thought due to aspiration
   pneumonitis/pneumonia with possible component of fluid overload as
   well.
   -Have completed 8 [**Known lastname 25**] course of vanc/ceftaz for PNA
   -Hold diuresis today as BP slightly lower than prior baseline
   -tolerated CPAP trial overnight
   <I>## Low grade temps/elevated WBC count:</I> Concerning for infection.
   Repeat CT scan of surgical site appears to show some progression that
   is concerning; based on this, have restarted empiric vancomycin and
   Zosyn. Have sent blood, urine and sputum cx. Check CXR today.
   <I>## Ileus:</I>Narcotic related, have been weaning opiates and
   replacing with alternatives with assistance from pain service. NGT out
   for multiple [**Known lastname 247**] with no n/v.  Still having BMs, though none since
   yesterday.   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   -replace NGT if sxs develop
   -regular diet
   -Continue to discuss with pain service methods to minimize narcotics
   burden.
   -Continue PO naloxone; pt with positive stool outpt
   <I>## > Coagulopathy/ Anticoagulation </I>INR elevated at 2.1 despite
   being off Coumadin.  Suspect [**1-12**] abx use/altered gut flora. Pt was on
   coumadin at rehab
reason not totally clear, although it was likely for
   DVT prophylaxis.  There is no known history of a DVT.  Pt w/ paroxysmal
   AF here, though no known prior h/o AF.  In setting of new AF, pt felt
   to need continued anticoagulation.
   - Continue to monitor INR.  Low dose Coumadin started; trend INR.
   <I>##Pain control:<I> Well controlled on new regimen, although still
   balancing need for pain control with goal of limiting sedation.
   - Appreciate pain service
s input.
   - con
t increase neurontin to 600 TID
   -Will decrease fentanyl patch to 75mcg today given some increased
   sedation
   -MSIR 10-20mg q4hr PRN; avoid IV pain meds unless pain refractory to PO
   meds
   -bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-08-08 20:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt noted to have decreased motor & sensation in bilateral LEs
   yesterday.
   -          Dr. [**Last Name (STitle) 253**] of ortho spine saw pt & wife y
[**Known lastname 25**] & this AM and
   discussed with them the progression seen on CT.  There is no plan for
   additional surgery
per pt
s wishes and ortho spine
s recommendation.
   -          Rad Onc saw pt yesterday and reviewed potential tx plan.
   -          Pain med requirements significantly decreased & pt reporting
   having less pain.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2104-8-6**] 12:05 AM
   Vancomycin - [**2104-8-8**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-8**] 02:32 AM
   Flowsheet Data as of  [**2104-8-8**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 102 (84 - 104) bpm
   BP: 124/49(66) {99/38(55) - 135/54(72)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,841 mL
                                                                    554 mL
   PO:
                                                                    910 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    931 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    455 mL
   Urine:
                                                                  1,020 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    821 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 0 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///39/
   Ve: 5.2 L/min
   Physical Examination
   General: slightly drowsy, but answering questions appropriately.
   Appears comfortable
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  0/5 strength
   RLE, 0/5 LLE.  Decreased/absent sensation b/l LE (some sensation
   present on RLE thigh)
   Labs / Radiology
   260 K/uL
   7.9 g/dL
   102 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.9 mEq/L
   15 mg/dL
   95 mEq/L
   137 mEq/L
   23.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2104-8-3**]  03:18 PM
                             [**2104-8-4**]  04:13 AM
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
   WBC
   15.0
   15.3
   17.5
   14.1
   16.2
   Hct
   31.4
   28.7
   28.5
   26.1
   23.8
   Plt
   [**Telephone/Fax (3) 287**]54
   260
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   TCO2
   44
   41
   Glucose
   86
   93
   110
   165
   126
   137
   114
   102
   Other labs: PT / PTT / INR:19.7/31.6/1.8, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:364 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Microbiology: Sputum: >25 PMNs and <10 epithelial cells/100X field.
    3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
    OROPHARYNGEAL FLORA.
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of Les in setting of expansion of RP mass/sarcoma on
   CT.
   <I>## High Grade Sarcoma:  Recently diagnosed over last few months.
   S/p incomplete resection (done by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**] in late
   [**Month (only) 93**]/early [**Month (only) 319**]).  CT Lspine this hosp stay have showed stranding and
   air in surgical site.  Question of this being post operative changes
   (though somewhat late for persistence of gas) vs necrotic tissue vs
   infected tissue. Repeat CT scan this past wk shows rapid progression of
   tumor with increasing size of RP mass.  Pt w/ worsening neurologic
   function in [**Name Prefix (Prefixes) **]
[**Last Name (Prefixes) 320**] nearly absent in LLE and mostly absent (to
   ~knee) on RLE and motor essentially absent in b/l extremities.
   Discussion has been had between ortho spine team & family and rad onc &
   family re: tx options.  At this point, the patient and family have
   opted for non-surgical therapy.  They are considering XRT, though given
   pt
s improved pain, they are considering utility of the treatment given
   it is not a curative tx &  pt is unlikely to regain meaningful
   neurologic function w/ it.
   -Consult onc re: prognosis/overall recommendations for care
   - Consult palliative medicine to potentially redirect focus of
   patient
s care towards comfort/symptom mgt
   - D/w rad onc utility of XRT given aggressiveness of CA & confirm w/
   them uncertainty of what is causing gas in RP mass and whether that
   would limit tx.
   <I>## Respiratory failure:</I> Largely resolved, although pt now with
   some recurrent CO2 retention in setting of suspected undiagnosed OSA.
   Initially thought due to aspiration pneumonitis/pneumonia with possible
   component of fluid overload as well.
   -Have completed 8 [**Known lastname 25**] course of vanc/ceftaz for PNA
   -Hold diuresis today as BP slightly lower than prior baseline
   -tolerated CPAP trial overnight
   <I>## Low grade temps/elevated WBC count:</I> Concerning for infection.
   Blood, urine and sputum cx unrevealing thus far. CXR unchanged. CT scan
   of surgical site shows persistent gas in the RP mass.
   -con
t empiric vancomycin and Zosyn.
   - cx for spike
   <I>## Ileus:</I>Largely resolved.  Narcotic related.  Having BMs.
   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   -replace NGT if sxs develop
   - PO naloxone if pt does not have BM x1day
   <I>## > Anticoagulation </I>Pt started on low dose Coumadin for afib.
   Pt was on coumadin at rehab
reason not totally clear, although it was
   likely for DVT prophylaxis.  There is no known history of a DVT.  Pt w/
   paroxysmal AF here, though no known prior h/o AF.  In setting of new
   AF, pt felt to need continued anticoagulation.  However, hct now
   dropping for unclear reasons.
   - hold coumadin & workup anemia
   <I>##Pain control:<I> Well controlled on new regimen, although still
   balancing need for pain control with goal of limiting sedation.
   - con
t increase neurontin to 600 TID
   -Will decrease fentanyl patch to 50mcg today given some sedation is
   present & pain seems to be much less severe
   -MSIR 10-20mg q4hr PRN; avoid IV pain meds unless pain refractory to PO
   meds
   -bowel regimen
   ICU Care
   Nutrition: PO regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: Holding anti-coag for now
   Communication:  Comments: Family mtg today
   Code status: Full code
   Disposition: Consider calling out after family mtg

2104-08-09 07:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mr. [**Known lastname **] is a 69yo male with a PMH significant
   for high grade sarcoma / peripheral nerve sheath tumor s/p debulking
   [**2104-7-3**] and anxiety/depression who presents from [**Hospital 246**] rehab with
   ileus, aspiration, pain control and CHF.  Intubated in ER secondary to
   acute respiratory failure in the setting of vomiting feculent emesis.
   Ileus resolving, PNA resolving, CHF resolving continued pain management
   issues and management of sarcoma.
   24 Hour Events
   Family meeting / multidisciplinary team meeting yesterday with the
   decision to change goals of care to home with hospice and no escalation
   of care.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Fentanyl 50mcg TD q72
   Zosyn 4.5gm IV q8h
   Vanc 1.5gm IV q12h
   Reglan
   Colace
   Lidocaine patch 5% 2 patches
   Neurontin 600mg TID
   Protonix 40mg Q24h
   Zyprexa 10mg PO Q24h
   RSSI
   Morphine 10-20mg PO q3h PRN
   Changes to medical and family history: None.
   Review of systems is unchanged from admission except as noted below
   Review of systems: None.
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Please see resident note.
   I/O
                                                                    -700cc
   Respiratory support
   Physical Examination
   Labs / Radiology
   286
                                     0.5
                                     36
                                     25
                                                                      16.6
        [image002.jpg] Sputum ([**8-7**]) with 3+ yeast and OP flora.
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   69yo male with a high grade sarcoma/peripheral nerve sheath tumor s/p
   debulking [**2104-7-3**] course complicated by pain control and hypercarbia.
   1) Sarcoma-Meeting with Rad onc, Orthopedics, Onc and family yesterday
   with the decision to change goals of care to optimize comfort and not
   escalate interventions at this time. .
   2) Respiratory failure: Tolerated nocturnal CPAP but doesn
t like it
   and has not been wearing it the past few nights. In the setting of his
   evolving goals of care this is fine. Will try to decrease opiates as
   tolerated to avoid worsening respiratory depression.
   3) Low grade fevers, elevated WBC: Pan cultured without any supportive
   microbiological data. C diff negative.  CT findings still possible
   infection with air in the mass. Will continue Vanc / Zosyn empirically
   for a 7 [**Known lastname 25**] course.
   4) A fib: Had been on Warfarin for prophylaxis but was held on
   admission. Developed A fib during the hospitalization but Warfarin was
   still held given a transient Hct drop. Would hold on Warfarin in the
   future given the risk outweighs the benefit in the setting of his DNR/I
   and hospice status.
   5) Ileus: Aggressive bowel regimen, well controlled.  Reglan change to
   10mg po q6hr, senna, biscodyl, colace and Narcan PRN as needed.
   6) Pain: Decreased fentyl to 50mcg given sedation. Continue neurontic
   PO, oral morphine for breakthrough pain. For spasms may need to add
   back a muscle relaxant
 can consider this today.  Palliative care
   consult appreciated.
   7) Heme: Following H/H and can transfuse for comfort.
   8) Access:  PICC line/peripheral. PPI for prophylaxis. SubQ heparin
   while here
   9) Dispo: Plan to d/c home with hospice services. Will touch base with
   Case Management regarding the logistics of discharge.
   10) Code: DNR/I, no escalation of care, plan for home with hospice.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2104-08-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of Les in setting of expansion of RP mass/sarcoma on
   CT. Continued coordination with palliative care re: home with hospice
   vs inpatient hospice; multidisciplinary meeting yesterday led to
   decision not to escalate care, not to pursue XRT and to endeavor to get
   Mr [**Known lastname **] home with hospice.
   He remains off CPAP overnight per pt preference.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-8**] 06:20 PM
   Vancomycin - [**2104-8-9**] 12:35 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2104-8-9**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-8-9**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 96 (87 - 102) bpm
   BP: 127/50(68) {97/48(62) - 127/61(75)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,603 mL
                                                                    328 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                  1,023 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                  1,050 mL
   Urine:
                                                                  1,385 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    218 mL
                                                                   -723 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General: slightly drowsy, but answering questions appropriately.
   Appears comfortable
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral inscision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  0/5 strength
   RLE, 0/5 LLE.  Decreased/absent sensation b/l LE (some sensation
   present on RLE thigh)
   Labs / Radiology
   286 K/uL
   8.4 g/dL
   92 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.0 mEq/L
   12 mg/dL
   93 mEq/L
   135 mEq/L
   25.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2104-8-5**]  04:47 AM
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
                             [**2104-8-8**]  06:23 PM
                             [**2104-8-9**]  05:03 AM
   WBC
   15.3
   17.5
   14.1
   16.2
   15.2
   16.6
   Hct
   28.7
   28.5
   26.1
   23.8
   23.2
   25.3
   Plt
   244
   284
   254
   [**Telephone/Fax (3) 338**]
   Cr
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   44
   41
   Glucose
   110
   165
   126
   137
   114
   102
   92
   Other labs: PT / PTT / INR:17.1/31.6/1.5, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.3, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:815 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of Les in setting of expansion of RP mass/sarcoma on
   CT.
   1) High Grade Sarcoma:  Recently diagnosed over last few months.  S/p
   incomplete resection (done by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**] in late [**Month (only) 93**]/early
   [**Month (only) 319**]).  CT Lspine this hosp stay have showed stranding and air in
   surgical site.  Question of this being post operative changes (though
   somewhat late for persistence of gas) vs necrotic tissue vs infected
   tissue. Repeat CT scan this past wk shows rapid progression of tumor
   with increasing size of RP mass.  Pt w/ worsening neurologic function
   in [**Name Prefix (Prefixes) **]
[**Last Name (Prefixes) 320**] nearly absent in LLE and mostly absent (to ~knee) on
   RLE and motor essentially absent in b/l extremities.  Discussion has
   been had between ortho spine team & family and rad onc & family re: tx
   options.  At this point, the patient and family have opted for
   non-surgical therapy.  They are considering XRT, though given pt
   improved pain, they are considering utility of the treatment given it
   is not a curative tx &  pt is unlikely to regain meaningful neurologic
   function w/ it.
   -Consult onc re: prognosis/overall recommendations for care
   - Consult palliative medicine to potentially redirect focus of
   patient
s care towards comfort/symptom mgt
   - D/w rad onc utility of XRT given aggressiveness of CA & confirm w/
   them uncertainty of what is causing gas in RP mass and whether that
   would limit tx.
   2) Respiratory failure: Largely resolved, although pt now with some
   recurrent CO2 retention in setting of suspected undiagnosed OSA.
   Initially thought due to aspiration pneumonitis/pneumonia with possible
   component of fluid overload as well.
   -Have completed 8 [**Known lastname 25**] course of vanc/ceftaz for PNA
   -Hold diuresis today as BP slightly lower than prior baseline
   -tolerated CPAP trial overnight
   3) Low grade temps/elevated WBC count: Concerning for infection. Blood,
   urine and sputum cx unrevealing thus far. CXR unchanged. CT scan of
   surgical site shows persistent gas in the RP mass.
   -con
t empiric vancomycin and Zosyn.
   - cx for spike
   4) Ileus: Largely resolved.  Narcotic related.  Having BMs.
   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   -replace NGT if sxs develop
   - PO naloxone if pt does not have BM x1day
   5) Anticoagulation: Pt started on low dose Coumadin for afib.  Pt was
   on coumadin at rehab
reason not totally clear, although it was likely
   for DVT prophylaxis.  There is no known history of a DVT.  Pt w/
   paroxysmal AF here, though no known prior h/o AF.  In setting of new
   AF, pt felt to need continued anticoagulation.  However, hct now
   dropping for unclear reasons.
   - hold coumadin & workup anemia
   6) Pain control: Well controlled on new regimen, although still
   balancing need for pain control with goal of limiting sedation.
   - con
t increase neurontin to 600 TID
   -Will decrease fentanyl patch to 50mcg today given some sedation is
   present & pain seems to be much less severe
   -MSIR 10-20mg q4hr PRN; avoid IV pain meds unless pain refractory to PO
   meds
   -bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2104-08-10 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt again remained off CPAP overnight per his preference.
   Tizanidine started for further pain control
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-8-10**] 12:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-10**] 01:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-9**] 08:00 AM
   Morphine Sulfate - [**2104-8-9**] 10:40 AM
   Other medications:
   Flowsheet Data as of  [**2104-8-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 87 (76 - 99) bpm
   BP: 117/50(66) {100/23(45) - 135/74(82)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,840 mL
                                                                    428 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,140 mL
   Urine:
                                                                  3,210 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///38/
   Physical Examination
   General: Flat affect, awake, alert, answering questions. Intermittently
   sleepy.
   HEENT: NCAT, facial flushing improved.
   Neck: thick
   Pulmonary: Rhonchi b/l anteriorly, decreased crackles from prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral incision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, sleepy, answering questions appropriately, fell
   asleep during exam but was easily arousable. Oriented.  0/5 strength
   RLE, 0/5 LLE.  Decreased/absent sensation b/l LE (some sensation
   present on RLE thigh)
   Labs / Radiology
   312 K/uL
   7.8 g/dL
   96 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.7 mEq/L
   10 mg/dL
   93 mEq/L
   136 mEq/L
   23.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2104-8-5**]  07:35 PM
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
                             [**2104-8-8**]  06:23 PM
                             [**2104-8-9**]  05:03 AM
                             [**2104-8-10**]  03:39 AM
   WBC
   17.5
   14.1
   16.2
   15.2
   16.6
   13.7
   Hct
   28.5
   26.1
   23.8
   23.2
   25.3
   23.5
   Plt
   [**Telephone/Fax (3) 346**]65
   286
   312
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   44
   41
   Glucose
   165
   126
   137
   114
   102
   92
   96
   Other labs: PT / PTT / INR:15.9/35.8/1.4, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.3, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:815 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of Les in setting of expansion of RP mass/sarcoma on
   CT.
   1) High Grade Sarcoma:  Recently diagnosed over last few months.  S/p
   incomplete resection (done by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**] in late [**Month (only) 93**]/early
   [**Month (only) 319**]).  CT Lspine this hosp stay have showed stranding and air in
   surgical site.  Question of this being post operative changes (though
   somewhat late for persistence of gas) vs necrotic tissue vs infected
   tissue. Repeat CT scan this past wk shows rapid progression of tumor
   with increasing size of RP mass.  Pt w/ worsening neurologic function
   in [**Name Prefix (Prefixes) **]
[**Last Name (Prefixes) 320**] nearly absent in LLE and mostly absent (to ~knee) on
   RLE and motor essentially absent in b/l extremities.  Discussion has
   been had between ortho spine team & family and rad onc & family re: tx
   options.  At this point, the patient and family have opted for
   non-surgical therapy.  They are considering XRT, though given pt
   improved pain, they are considering utility of the treatment given it
   is not a curative tx &  pt is unlikely to regain meaningful neurologic
   function w/ it.  Onc consulted yesterday, nothing add
l to offer.
   Palliative care involved to assist with planning home with hospice.
   -follow up with palliative care re planning for hospice
   -continue fentanyl patch, neurontin, po morphine and lidocaine patch
   for pain control
   -tizanidine added yesterday for additional pain control; will monitor
   pt for evidence of increased sedation and consider dose reduction if
   found
   2) Low grade temps/elevated WBC count: Concerning for infection. Blood,
   urine and sputum cx unrevealing thus far. CXR unchanged. CT scan of
   surgical site shows persistent gas in the RP mass.
   -con
t empiric vancomycin and Zosyn for planned 7 [**Known lastname 25**] course, currently
   [**Known lastname 25**] 2.
   3) Ileus: Largely resolved.  Narcotic related.  Having BMs.
   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   4) Anticoagulation: Pt started on low dose Coumadin for afib.  Pt was
   on coumadin at rehab
reason not totally clear, although it was likely
   for DVT prophylaxis.  There is no known history of a DVT.  Pt w/
   paroxysmal AF here, though no known prior h/o AF.  In setting of new
   AF, pt felt to need continued anticoagulation.  However, hct now
   dropping for unclear reasons.
   - hold off on anticoagulation.
   ICU Care
   Nutrition: PO diet as tolerated
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: not indicated
   Code status: DNR / DNI
   Disposition: Likely directly home with hospice. Will discuss with CM
   today concerning this.

2104-08-11 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   **Required single dose IV fentanyl for pain control at HS --> excellent
   effect
   **Appeared to tolerate tizanidine very well yesterday; was alert and
   conversant in afternoon
   **Pt expressed additional questions about radiation treatment for his
   cancer and would like to discuss again with radiation oncology.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-8-10**] 11:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-11**] 01:52 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2104-8-10**] 10:55 PM
   Other medications:
   Flowsheet Data as of  [**2104-8-11**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 85 (72 - 92) bpm
   BP: 125/50(69) {79/35(47) - 125/83(86)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,860 mL
                                                                    161 mL
   PO:
                                                                  1,170 mL
             TF:
   IVF:
                                                                  1,690 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                  1,110 mL
   Urine:
                                                                  3,465 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -605 mL
                                                                   -949 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///39/
   Physical Examination
   General: Flat affect, awake, alert, answering questions. Intermittently
   sleepy.
   HEENT: NCAT, mild facial flushing.
   Neck: thick
   Pulmonary: coarse breath sounds b/l anteriorly, decreased crackles from
   prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral incision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, answering questions appropriately, fell asleep
   during exam but was easily arousable. Oriented.  0/5 strength RLE, 0/5
   LLE.  Decreased/absent sensation b/l LE (some sensation present on RLE
   thigh)
   Labs / Radiology
   340 K/uL
   7.8 g/dL
   91 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.8 mEq/L
   8 mg/dL
   96 mEq/L
   138 mEq/L
   23.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2104-8-6**]  03:53 AM
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
                             [**2104-8-8**]  06:23 PM
                             [**2104-8-9**]  05:03 AM
                             [**2104-8-10**]  03:39 AM
                             [**2104-8-11**]  04:04 AM
   WBC
   17.5
   14.1
   16.2
   15.2
   16.6
   13.7
   13.3
   Hct
   28.5
   26.1
   23.8
   23.2
   25.3
   23.5
   23.7
   Plt
   [**Telephone/Fax (3) 346**]65
   286
   312
   340
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   44
   41
   Glucose
   126
   137
   114
   102
   92
   96
   91
   Other labs: PT / PTT / INR:16.6/31.4/1.5, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.3, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:815 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of LEs in setting of expansion of RP mass/sarcoma on
   CT.
   1) High Grade Sarcoma:  Recently diagnosed over last few months.  S/p
   incomplete resection (done by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**] in late [**Month (only) 93**]/early
   [**Month (only) 319**]).  CT Lspine this hosp stay have showed stranding and air in
   surgical site.  Question of this being post operative changes (though
   somewhat late for persistence of gas) vs necrotic tissue vs infected
   tissue. Repeat CT scan this past wk shows rapid progression of tumor
   with increasing size of RP mass.  Pt w/ worsening neurologic function
   in [**Name Prefix (Prefixes) **]
[**Last Name (Prefixes) 320**] nearly absent in LLE and mostly absent (to ~knee) on
   RLE and motor essentially absent in b/l extremities.  Discussion has
   been had between ortho spine team & family and rad onc & family re: tx
   options.  At this point, the patient and family have opted for
   non-surgical therapy.  They are considering [**Last Name (Prefixes) 357**], though given pt
   improved pain, they are considering utility of the treatment given it
   is not a curative tx &  pt is unlikely to regain meaningful neurologic
   function w/ it.  Onc consulted yesterday, nothing add
l to offer.
   Palliative care involved to assist with planning home with hospice.
   -follow up with palliative care re planning for hospice
   -continue fentanyl patch, neurontin, po morphine and lidocaine patch
   for pain control
   -tizanidine added yesterday for additional pain control; will monitor
   pt for evidence of increased sedation and consider dose reduction if
   found
   - Will request Rad Onc come by to review with patient potential tx
   benefits/risks as pt is considering going ahead w/ tx
   2) Low grade temps/elevated WBC count: Concerning for infection. Blood,
   urine and sputum cx unrevealing thus far. CXR unchanged. CT scan of
   surgical site shows persistent gas in the RP mass.
   -con
t empiric vancomycin and Zosyn for planned 7 [**Known lastname 25**] course, currently
   [**Known lastname 25**] 5.
   3) Ileus: Largely resolved.  Narcotic related.  Having BMs.
   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   4) Anticoagulation: Pt started on low dose Coumadin for afib.  Pt was
   on coumadin at rehab
reason not totally clear, although it was likely
   for DVT prophylaxis.  There is no known history of a DVT.  Pt w/
   paroxysmal AF here, though no known prior h/o AF.  Given overall
   clinical picture (& dropping hct) will hold on anticoag.
   - hold off on anticoagulation.
   ICU Care
   Nutrition: PO
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: SC hep
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: MICU for now ; if pt to get [**Last Name (LF) 357**], [**First Name3 (LF) 116**] discuss transfer to
   CC6, where he knows & likes RNs ; or if home, will prepare services for
   that.

2104-08-12 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt requesting further discussion of [** 357**] with rad onc & oncology as
   well as primary team.  Meeting being arranged for today with these
   services.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-8-12**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-11**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2104-8-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 98 (82 - 101) bpm
   BP: 124/47(65) {102/44(62) - 130/67(78)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,440 mL
                                                                    470 mL
   PO:
                                                                    650 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    790 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,120 mL
   Urine:
                                                                  2,870 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,430 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   General: Flat affect, awake, alert, answering questions. Intermittently
   sleepy.
   HEENT: NCAT, mild facial flushing.
   Neck: thick
   Pulmonary: coarse breath sounds b/l anteriorly, decreased crackles from
   prior
   Cardiac: distant
   Abdomen: Still distended with hyperactive BS, soft, non-tender.
   Extremities: 2+ b/l pitting edema. 15" lateral incision right flank,
   staples in place, no erythema, c/d/i, no expressible fluid.  tender to
   palpation.
   Neurologic: Awake, answering questions appropriately, fell asleep
   during exam but was easily arousable. Oriented.  0/5 strength RLE, 0/5
   LLE.  Decreased/absent sensation b/l LE (some sensation present on RLE
   thigh)
   Labs / Radiology
   365 K/uL
   7.9 g/dL
   106 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.8 mEq/L
   7 mg/dL
   94 mEq/L
   136 mEq/L
   24.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
                             [**2104-8-8**]  06:23 PM
                             [**2104-8-9**]  05:03 AM
                             [**2104-8-10**]  03:39 AM
                             [**2104-8-11**]  04:04 AM
                             [**2104-8-12**]  03:30 AM
   WBC
   14.1
   16.2
   15.2
   16.6
   13.7
   13.3
   14.8
   Hct
   26.1
   23.8
   23.2
   25.3
   23.5
   23.7
   24.4
   Plt
   [**Telephone/Fax (3) 361**]86
   312
   340
   365
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   44
   41
   Glucose
   137
   114
   102
   92
   96
   91
   106
   Other labs: PT / PTT / INR:16.0/31.4/1.4, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.3, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:815 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   69M with recently diagnosed high grade sarcoma s/p resection presents
   from NH with hypoxic respiratory failure likely from aspiration of GI
   contents in setting of ileus.  Pt now w/ progressive neurologic
   decline/paralysis of LEs in setting of expansion of RP mass/sarcoma on
   CT.
   1) High Grade Sarcoma:  Recently diagnosed over last few months.  S/p
   incomplete resection (done by Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 252**] in late [**Month (only) 93**]/early
   [**Month (only) 319**]).  CT Lspine this hosp stay have showed stranding and air in
   surgical site.  Question of this being post operative changes (though
   somewhat late for persistence of gas) vs necrotic tissue vs infected
   tissue. Repeat CT scan this past wk shows rapid progression of tumor
   with increasing size of RP mass.  Pt w/ worsening neurologic function
   in [**Name Prefix (Prefixes) **]
[**Last Name (Prefixes) 320**] nearly absent in LLE and mostly absent (to ~knee) on
   RLE and motor essentially absent in b/l extremities.  Discussion has
   been had between ortho spine team & family and rad onc & family re: tx
   options.  At this point, the patient and family have opted for
   non-surgical therapy.  They are considering [**Last Name (Prefixes) 357**], though given pt
   improved pain, they are considering utility of the treatment given it
   is not a curative tx &  pt is unlikely to regain meaningful neurologic
   function w/ it.  Onc consulted yesterday, nothing add
l to offer.
   Palliative care involved to assist with planning home with hospice.
   -follow up with palliative care re planning for hospice
   -continue fentanyl patch, neurontin, po morphine and lidocaine patch
   for pain control
   -tizanidine added yesterday for additional pain control; will monitor
   pt for evidence of increased sedation and consider dose reduction if
   found
   - Will request Rad Onc come by to review with patient potential tx
   benefits/risks as pt is considering going ahead w/ tx
   2) Low grade temps/elevated WBC count: Concerning for infection. Blood,
   urine and sputum cx unrevealing thus far. CXR unchanged. CT scan of
   surgical site shows persistent gas in the RP mass.
   -con
t empiric vancomycin and Zosyn for planned 7 [**Known lastname 25**] course, currently
   [**Known lastname 25**] 5.
   3) Ileus: Largely resolved.  Narcotic related.  Having BMs.
   Tolerating POs.
   -Continue pro-kinetic bowel regimen (Reglan, Bisacodyl, Senna) along w/
   colace
   4) Anticoagulation: Pt started on low dose Coumadin for afib.  Pt was
   on coumadin at rehab
reason not totally clear, although it was likely
   for DVT prophylaxis.  There is no known history of a DVT.  Pt w/
   paroxysmal AF here, though no known prior h/o AF.  Given overall
   clinical picture (& dropping hct) will hold on anticoag.
   - hold off on anticoagulation.
   ICU Care
   Nutrition: PO
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT: SC hep
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: MICU for now ; if pt to get [**Last Name (LF) 357**], [**First Name3 (LF) 116**] discuss transfer to
   CC6, where he knows & likes RNs ; or if home, will prepare services for
   that.

2104-08-12 10:56:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: Mr. [**Known lastname **] is a 69 yo male pmh
   significant for high grade sarcoma/peripheral nerve sheath tumor s/p
   debulking [**2104-7-3**] and anxiety/depression who presents from [**Hospital 246**]
   rehab with ileus, aspiration, pain control and CHF.  Intubated in ER
   secondary to acute respiratory failure in the setting of vomiting
   feculent emesis.  Ileus resolving, PNA resolving, CHF resolving
   continued pain management issues and management of sarcoma.
   24 Hour Events: Meeting pending with oncology and radiation oncology
   possibly palliative care.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2104-8-12**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2104-8-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-8-12**] 10:00 AM
   Other medications:
   Dulcolax
   Olanzapine
   RISS
   Tizanidine
   Fentyl patch 50mcg
   Zosyn
   Vancomycin
   Senna
   Reglan
   Colace
   Lidocain
   [**9-29**] morphine IR total 80mg 24hrs
   Valium
   simethicone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Doing well no complaints
   Flowsheet Data as of  [**2104-8-12**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 96 (86 - 101) bpm
   BP: 127/52(71) {105/44(62) - 130/67(78)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,440 mL
                                                                    789 mL
   PO:
                                                                    650 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    790 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,780 mL
   Urine:
                                                                  2,870 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,430 mL
                                                                   -991 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///36/
   Physical ExaminationGen: .  HEENT: PERRL, EOMI.  Neck: Unable to
   visualize JVP, Lungs: decreased BS bases no overt wheeze or rhales, CV:
   RRR s1s2 no m/r/g appreciated.  Abdomen: normoactive BS, Less
   Distended, no r/g. ext: 2+ LE edema bilaterally.   Skin: Warm and
   dry. Neuro: No movement bilateral LE and no sensation Bilateral LE.
   Labs / Radiology
   7.9 g/dL
   365 K/uL
   106 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.8 mEq/L
   7 mg/dL
   94 mEq/L
   136 mEq/L
   24.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2104-8-6**]  05:00 PM
                             [**2104-8-6**]  10:03 PM
                             [**2104-8-7**]  02:35 AM
                             [**2104-8-7**]  03:36 AM
                             [**2104-8-8**]  04:06 AM
                             [**2104-8-8**]  06:23 PM
                             [**2104-8-9**]  05:03 AM
                             [**2104-8-10**]  03:39 AM
                             [**2104-8-11**]  04:04 AM
                             [**2104-8-12**]  03:30 AM
   WBC
   14.1
   16.2
   15.2
   16.6
   13.7
   13.3
   14.8
   Hct
   26.1
   23.8
   23.2
   25.3
   23.5
   23.7
   24.4
   Plt
   [**Telephone/Fax (3) 361**]86
   312
   340
   365
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   44
   41
   Glucose
   137
   114
   102
   92
   96
   91
   106
   Other labs: PT / PTT / INR:16.0/31.4/1.4, CK / CKMB /
   Troponin-T:46//0.10, ALT / AST:30/24, Alk Phos / T Bili:64/0.3, Amylase
   / Lipase:43/12, Differential-Neuts:78.6 %, Lymph:15.0 %, Mono:4.4 %,
   Eos:1.5 %, D-dimer:3324 ng/mL, Fibrinogen:603 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:815 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   69 yo male with a high grade sarcoma/peripheral nerve sheath tumor s/p
   debulking [**2104-7-3**] course complicated by pain control and hypercarbia.
   Now DNR/I with goal of getting him home for hospice.
   1) Sarcoma: Meeting with Rad onc, Orthopedics, Onc and family [**8-8**]
   decision was to for no XRT, further chemo or surgery.  However, he was
   asking about XRT
s pros / cons Sunday; Meeting today with radiation
   oncology, oncology and palliative care.  Still scheduled for radiation
   therapy today.
   2) Respiratory failure: Not using CPAP for comfort purposes. Still
   receiving supplement oxygen via nasal cannula. Attempting to titrate
   pain medicines to minimize sedation and any respiratory complications.
   3) Low grade fevers, elevated WBC: Completed a 10 [**Known lastname 25**] course of Vanc /
   Zosyn that was d/
ced and then restarted empirically for a 7 [**Known lastname 25**] course
   again, currently [**Known lastname 25**] #6.
   4) A fib: Holding given the risk outweighs the benefit in the setting
   of his DNR/I and hospice status.
   5) Ileus: No change in his bowel regimen
s had adequate success
   with Reglan, Bisacodyl, Senna. Narcan PRN as needed.
   6) Pain: On Fentanyl to 50mcg given sedation. Continuing neurontin PO,
   oral morphine for breakthrough pain, tizanadine. Seems to have a better
   balance between pain control and sedation over the past two [**Known lastname 247**].
   Palliative care consult appreciated. Consider anti-depressant, possibly
   TCA for dual pain-control and anti-depressant effects.  Will start
   Celexa today.
   7) Heme: Following H/H and can transfuse for comfort. Goal Hct > 21%.
   8) Access:  PICC line/peripheral. PPI for prophylaxis. SubQ heparin
   while here.
   9) Dispo: Plan to d/c home with hospice services. [**Hospital 355**]
   assistance appreciated. Possible d/c tomorrow or Thursday. Would
   clarify his preference about whether or not hospitalize him should he
   suffer further complications.
   10) Code: DNR/I, no escalation of care, plan for home with hospice.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-7-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : To Floor for Hospice Care/Home
   Total time spent: 30 min